2174-03-13 05:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transferred from OSH
   - UOP trailed off overnight
 gave PO fluids
   - Abd U/S, CT abd/pelvis/head done
 MULTI LUMEN - START [**2174-3-12**] 04:00 PM
   (from outside hospital)
 BLOOD CULTURED - At [**2174-3-12**] 04:30 PM
   from central line
 NASAL SWAB - At [**2174-3-12**] 04:30 PM
   admit MRSA swab
 EKG - At [**2174-3-12**] 06:03 PM
 ULTRASOUND - At [**2174-3-12**] 10:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-3-13**] 12:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-3-12**] 09:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-13**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 97 (96 - 102) bpm
   BP: 107/54(65) {102/53(65) - 121/74(84)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    130 mL
                                                                    105 mL
   PO:
             TF:
   IVF:
                                                                    130 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                     80 mL
   Urine:
                                                                    180 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   General: resting in bed comfortably
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), reactive to light
   directly and consensually, Sclera icteric, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  soft, non-tender, + distended with ascites, bowel sounds
   present, no rebound tenderness or guarding, unable to assess
   hepatosplenomegaly
   Ext: Warm, well perfused,+ 2+ b/l LE pitting edema to the knees
   Neuro: no asterixis. alert, oriented x 3. Slow speech (long pauses
   before answering a question, but answers are appropriate)
   Labs / Radiology
   37 K/uL
   9.8 g/dL
   95 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.3 mEq/L
   29 mg/dL
   89 mEq/L
   130 mEq/L
   26.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2174-3-12**]  04:05 PM
                             [**2174-3-13**]  03:12 AM
   WBC
   9.1
   9.7
   Hct
   27.7
   26.4
   Plt
   37
   37
   Cr
   0.8
   Glucose
   105
   95
   Other labs: PT / PTT / INR:24.4/54.5/2.4, CK / CKMB / Troponin-T:20//,
   ALT / AST:20/86, Alk Phos / T Bili:42/36.8, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:92 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:209
   IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: -
   - Abd U/S prelim read:
   Nodular heterogenous shrunken liver, consistent with cirrhosis.
   Main portal vein thrombosis with patent RAPV, RPPV, and LPV.
   Ascites
   Tumefactive sludge in the gall bladder
   Splenomegaly with the spleen measuring 17 cm
   - CT abd/pelvis/head
   PACS not available this AM for maintenance
   Assessment and Plan
   Assessment and Plan:
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism here with anemia, jaundice, and altered mental status.
   .
   1.  Anemia.  Etiology of profound anemia is unclear and likely
   multifactorial.  Iron studies show ACD and baseline crit from [**2171**] is
   28.  Her history of diarrhea would be concerning for melena, though BUN
   remains low and normal and no evidence of GI bleed here or at OSH.
   Recent viral gastroenteritis plus alcohol use may have resulted in
   marrow supresssion.  Reticulocyte count of 4 from OSH argues against
   hemolysis and more towards marrow supression.  There is also concern
   for DIC or TTP given low fibrinogen, elevated PTT, and
   thrombocytopenia, rare schistocytes though suspect that these
   abnormalities are secondary to liver failure.   Normal LDH may argue
   against a microangiopathic anemia.  MCV of 120 suggestive of alcohol
   abuse and liver failure.  Iron panel consistent with anemia of chronic
   disease. B12 and folate WNL
   - stool guaiac negative
   - follow hct
   - will need EGD/[**Last Name (un) **] at some point given cirrhosis (call GI/Liver)
   - review peripheral smear
   - f/u DIC labs
   - type and cross 2 units
   - ct abd/pelvis to look for site of bleed, hematoma though no current
   obvious source
   .
   2.  Altered mental status. Patient has AMS that is improving.  Likely
   secondary to hyponatremia, profound anemia and ?resolving hepatic
   encephalopathy.  No current source of infection.  Currently no
   asterixis but speech remains slow.  No abdominal tenderness or WBC to
   suggest SBP and patient was previously treated with three days of
   unasyn for unclear reason (?SBP, though no para performed).  Head CT
   from OSH negative.  H/o of alcohol abuse, but patient is not delirious
   and does not appear to be withdrawing from alcohol. [**Doctor Last Name **] low on CIWA
   currently (only positive for subjective feelings of anxiety).
   - ceftriaxone to cover SBP since unclear if patient had this on
   presentation to OSH
   - f/u blood, urine, sputum, stool culture
   - f/u cxr
 no infiltrate
   - f/u Head CT
   - lactulose -> titrate to [**3-3**] BMs per day
   - lasix to correct hyponatremia
   3.  Cirrhosis. Patient has mild transaminitis with thrombocytopenia,
   ascites, LE edema, hepatosplenomegaly, and elevated INR to 2.5.  This
   is likely secondary to cirrhosis from alcoholism.  Currently not
   drinking for 1 month per patient and husband.  [**Name (NI) 83**] history of liver
   biopsy, no prior EGD/[**Last Name (un) **], never seen a hepatologist.  Her recent heavy
   tylenol use may have lead to a more precipitous decline in liver
   function.
   - complete abdominal ultrasound with dopplers showing cirrhosis and
   portal vein thrombosis
   - lasix 20 mg given overnight but UOP response low
   - no urgent indication for paracentesis
   - liver consult
   .
   4.  Diarrhea.  Patient not on lactulose and had diarrhea prior to
   admission.  Concern for viral etiology vs. med effect (was on magnesium
   oxide at OSH).  C. diff negative at outside hospital.
   - stool studies
   - stool G- so far
   .
   5.  Hyperbilirubinemia.  Patient has first onset jaundice in setting of
   heavy alcohol abuse and recent heavy tylenol use due to plantar
   fascitis.  Concerning for jaudice due to liver failure, though per OSH
   report on presentation, hyperbilirubinemia was predominantly indirect
   (T. bili 17.1, D. bili 5.4).  In the setting of getting 10 units of
   blood, T. bili rose to 37 with D. bili of 23.  Suspect that
   hyperbilirubinemia is related to liver failure, but may have element of
   hemolysis (though labs do not substantiate this - retic count 4, LDH
   normal, hapto undectable but liver patient).  No current evidence of
   bleeding or hematoma and no localizing symptoms at present.
   - follow bili
   - follow Hct
   - minimize non-essential meds
   - consider hematology consult
   .
   6.  Thrombocytopenia.  Likely secondary to liver failure and
   splenomegaly.  However, will evaluate for TTP and DIC.  Rare
   schistocytes on smear with elevated PTT, low fibrinogen, and
   hyperbilirubinemia.  However, LDH normal, arguing against TMA.
   - follow DIC labs
   - follow plt count
   - transfuse if plt < 10 or signs of active bleeding
   .
   7. Hyponatremia.  Likely secondary to ascites and LE edema.
   - improved with lasix 20 mg IV overnight
   - follow sodium
   .
   8.  LE edema.  B/l LE pitting edema almost certainly related to liver
   failure, however, will evaluate cardiac function with echo as well.
   - echo
   - lasix IV 20 mg x 1 given last night; will give another 40 mg IV this
   AM
   9.  H/o alcohol abuse. [**Doctor Last Name **] low on CIWA currently (only positive for
   subjective feelings of anxiety).
   - continue valium CIWA scale
   - continue vitamins, folate, thiamine
   - sw consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, on clears -> advance as tolerated to
   low sodium diet
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: peripherals, Right subclavian from OSH - d/c in AM after
   placing two peripherals
   .
   Code: full
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: call out to [**Hospital Ward Name 408**] 10 tday
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-03-13 09:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo women with h/o ETOH abuse, and [** 4806**].  Has had 2 weeks of
   nonbloody diarrhea.  Has had plantar fasciitis, taking lots of
   tylenol.  Developed jaundice and altered MS.  At OSH Hct 9, Tbili 17,
   direct bili of 5.  Guaiac neg.  Got 10U of blood.    Tylenol level was
   <10.  MCV 120.  During hospital stay, MS initially improved, but Tbili
   went to 43/25 direct.   On presentation to [**Hospital1 1**], had CT head, abd,
   pelvis.  Normal head CT.  Abd with HSM, ascites.  U/S with PVT on main
   portal vein.   Given lasix 20mg with not much response.  Paracentesis
   deferred because was treated with antibiotics last 4 days (Unasyn) for
   unclear reasons.
   24 Hour Events:
 MULTI LUMEN - START [**2174-3-12**] 04:00 PM
 BLOOD CULTURED - At [**2174-3-12**] 04:30 PM
   from central line
 NASAL SWAB - At [**2174-3-12**] 04:30 PM
   admit MRSA swab
 EKG - At [**2174-3-12**] 06:03 PM
 ULTRASOUND - At [**2174-3-12**] 10:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-3-13**] 12:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-3-13**] 07:30 AM
   Other medications:
   folate
   MVI
   nicotine
   vitamin K
   thiamin
   lactulose
   CTX
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t) Conjunctival edema
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): Jaundice
   Heme / Lymph: Anemia, Coagulopathy
   Neurologic: No(t) Headache
   Psychiatric / Sleep: very slow in responding to questions
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2174-3-13**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 96 (96 - 102) bpm
   BP: 108/56(70) {102/53(65) - 121/74(84)} mmHg
   RR: 21 (19 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    130 mL
                                                                    268 mL
   PO:
             TF:
   IVF:
                                                                    130 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                    135 mL
   Urine:
                                                                    180 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): To Name, and place, Movement: Not assessed,
   Tone: Not assessed, no asteriskis
   Labs / Radiology
   9.8 g/dL
   37 K/uL
   95 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.3 mEq/L
   29 mg/dL
   89 mEq/L
   130 mEq/L
   26.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2174-3-12**]  04:05 PM
                             [**2174-3-13**]  03:12 AM
   WBC
   9.1
   9.7
   Hct
   27.7
   26.4
   Plt
   37
   37
   Cr
   0.8
   0.8
   Glucose
   105
   95
   Other labs: PT / PTT / INR:24.4/54.5/2.4, CK / CKMB / Troponin-T:20//,
   ALT / AST:20/86, Alk Phos / T Bili:42/36.8, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:92 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:209
   IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Delirium:  Does not have asteriskis.   MS is improving per husband.
   [**Name (NI) 11**] be due to hepatic encephalopthy, ICU delirium, hyponatremia.
   Continue lactulose.  Give thiamine and folate.
   Anemia:  [**Month (only) 11**] have been a combination of slow blood loss with bone
   marrow suppression due to alchohol.  Currently LDH is normal, making
   hemolysis unlikely.
   Diarrhea:  check C. diff.  Was negative  as OSH.  Maybe due to MgOxide.
   Cirrhosis:  elevated bilirubin, coagulopathy.  Mild transaminitis.  Due
   to ETOH cirrhosis with PVT.  hyperbilirubinemia more consistent with
   liver disease now, although originally seemed to be consistent with
   hemolysis also.
   hyponatremia:  has improved may have been intravascularly depleted when
   admitted.
   ETOh abuse: outside of window of [**Last Name (LF) 4806**], [**First Name3 (LF) **] will not continue CIWA
   scale
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-12**] 04:00 PM
   Comments: can d/c subclavian and place peripherals
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2174-03-14 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diagnostic paracentesis - not conclusive for SBP
   - Dobhoff placed, removed by patient, replaced after restraints placed
   - Liver recs: Supplement diet with TF
   - NAC given
   - Started TF per nutrition recs
   - Started steroids per Liver recs
   - Rads: Portal vein thrombus appears to be acute - no collaterals (wet
   read)
   - EGD in AM
   - D/c CVC in AM - has PIV x2
   - Had large amount fo clot around rectal tube this AM, repeat HCT
   pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-3-13**] 12:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-3-13**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-14**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 107 (95 - 107) bpm
   BP: 115/70(80) {98/45(58) - 124/72(84)} mmHg
   RR: 20 (17 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,030 mL
                                                                    262 mL
   PO:
                                                                    360 mL
             TF:
                                                                     60 mL
                                                                    113 mL
   IVF:
                                                                  1,500 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                    893 mL
                                                                    115 mL
   Urine:
                                                                    518 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,137 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General: resting in bed comfortably
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), reactive to light
   directly and consensually, Sclera icteric, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  soft, non-tender, + distended with ascites, bowel sounds
   present, no rebound tenderness or guarding, unable to assess
   hepatosplenomegaly
   Ext: Warm, well perfused,+ 2+ b/l LE pitting edema to the knees
   Neuro: no asterixis. alert, oriented x 3. Slow speech (long pauses
   before answering a question, but answers are appropriate)
   Labs / Radiology
   30 K/uL
   9.8 g/dL
   135 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   38 mg/dL
   92 mEq/L
   132 mEq/L
   26.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2174-3-12**]  04:05 PM
                             [**2174-3-13**]  03:12 AM
                             [**2174-3-13**]  03:20 PM
                             [**2174-3-14**]  03:26 AM
   WBC
   9.1
   9.7
   10.2
   10.1
   Hct
   27.7
   26.4
   25.6
   26.6
   Plt
   37
   37
   34
   30
   Cr
   0.8
   0.8
   1.2
   0.8
   Glucose
   105
   95
   120
   135
   Other labs: PT / PTT / INR:24.5/46.0/2.4, CK / CKMB / Troponin-T:20//,
   ALT / AST:26/109, Alk Phos / T Bili:47/37.3, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:127 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:212
   IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   .
   Radiology:
   .
   RUQ U/S [**3-12**]: Nodular, shrunken, heterogenous liver c/w cirrhosis;
   ascites; splenomegaly; main portal vein thrombosis.
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism here with anemia, jaundice, and altered mental status.
   .
   #  Altered mental status. Patient has AMS that is waxing and [**Doctor Last Name 282**].
   Likely secondary to hepatic encephalopathy that is not clearing due to
   fixed portal vein obstruction. Currently no asterixis but speech
   remains slow and global decreased tone and reflexes.  Also confounded
   by hyponatremia and anemia.  No current source of infection, CXR
   negative for infiltrate.  No abdominal tenderness or WBC to suggest SBP
   and patient was previously treated with three days of Unasyn for
   unclear reason. Head CT from OSH negative.  H/o of alcohol abuse, but
   patient is not delirious and does not appear to be withdrawing from
   alcohol. [**Doctor Last Name **] low on CIWA currently. Head CT here ([**3-13**]) neg for
   acute intracranial process. There is concern also for cerebral edema in
   setting of fulminant liver failure. Will have low threshold to repeat
   head CT if mental status quickly declines or does not clear.
   - Continue ceftriaxone to cover SBP since unclear if patient had this
   on presentation to OSH.
   - f/u blood, urine, sputum, stool culture
   - lactulose -> titrate to [**3-3**] BMs per day
   - lasix to correct hyponatremia
   - Would maintain low threshold to intubate patient as mental status
   declines,
   .
   # Cirrhosis / hyperbilrubinemia / portal vein thrombosis. Patient had
   mild transaminitis with current thrombocytopenia, ascites, LE edema,
   hepatosplenomegaly, and elevated INR to 2.5.  This is likely secondary
   to cirrhosis from alcoholism.  Currently not drinking for 1 month per
   patient and husband.  [**Name (NI) **] recent heavy acetaminophen use may have lead
   to a more precipitous decline in liver function. Would like to further
   delineated the timecourse of portal vein thombosis, as treatment with
   systemic or local anticoagulation is risky in this coagulopathic
   patient. At this time, it seems acute due to no collateral flow in the
   portal ciculation. Would consider further imaging, such as contrasted
   CT, if needed. The ascetic fluid did not appear to be SBP, as WBC was
   only 25, however the patient did receive treatment (Unasyn) for 3 days
   prior to arrival from OSH. With current GI bleed per rectum, EGD would
   be helpful for source identification and possible therapy if active
   bleeding or varices are noted.
   Hyperbilirubinemia likely due to combination of chronic heavy alcohol
   abuse and recent increased acetaminophen use due to plantar fasciitis.
   Per OSH report on presentation, hyperbilirubinemia was predominantly
   indirect (T. bili 17.1, D. bili 5.4).  After receiving 5-10 units of
   PRBCs at OSH, T. bili rose to 37 with D. bili of 23.  [**Month (only) 11**] have element
   of hemolysis but labs will be difficult to interpret in setting of
   liver failure.
   - follow bili - stable
   - follow Hct - stable
   - minimize non-essential meds
   - liver consult recs: continue steroids, will coordinate EGD
   - Will ask Hepatology re: adding rifaximin
   .
   #  Anemia.  Etiology of profound anemia is unclear and likely
   multifactorial, however BRBPR is the most concerning etiology.  Iron
   studies show ACD and baseline HCT from [**2171**] is 28.  Recent viral
   gastroenteritis plus alcohol use may have resulted in marrow
   supresssion.  Reticulocyte count of 4 from OSH argues against hemolysis
   and more towards marrow supression. There is also concern for DIC or
   TTP given low fibrinogen, elevated PTT, and thrombocytopenia, rare
   schistocytes though suspect that these abnormalities are secondary to
   liver failure.   Normal LDH may argue against a microangiopathic
   anemia.  B12 and folate WNL. Had episode of BRBPR the AM of [**3-14**] with
   some clot on sheet. Typed and crossed for 2 units.
   - follow hct: 26.6 -> 29.0 this AM after BRBPR noted
   - Would check q4hr HCT while patient is actively bleeding
   - Plan to get EGD this AM ([**3-14**]), but likely will need colonoscopy as
   well, if no bleeding seen
 did not start bowel prep
   - review peripheral smear
   - f/u DIC labs
 but difficult to assess with liver failure
   - CT abd/pelvis to look for site of bleed, hematoma though no current
   obvious source
 f/u final read
   - consider hematology consult
   .
   #  Thrombocytopenia.  Likely secondary to liver failure and
   splenomegaly.  And evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and hyperbilirubinemia.  However, LDH normal,
   arguing against TMA.
   - follow DIC labs - pending
   - Follow plt count and would transfuse as patient actively bleeding
   - transfuse if plt < 10 or signs of active bleeding
   .
   #  Diarrhea.  Patient had diarrhea prior to admission.  Concern for
   viral etiology vs. med effect (was on magnesium oxide at OSH).  C. diff
   negative at outside hospital.
   - F/u stool studies
   - Stool grossly positive AM of [**3-14**].
   .
   # Hyponatremia.  Likely secondary to ascites and LE edema. Improving.
   - improved with lasix 20 mg IV
   - follow sodium [**Hospital1 **]
   .
   8.  LE edema.  B/l LE pitting edema almost certainly related to liver
   failure, however, will evaluate cardiac function with echo as well.
   - TTE today [**3-14**]
   - Lasix, PRN
   9.  H/o alcohol abuse. [**Doctor Last Name **] low on CIWA currently (only positive for
   subjective feelings of anxiety).
   - continue valium CIWA scale
   - continue vitamins, folate, thiamine
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, on clears -> but will hold with
   declining MS, TF started [**3-13**] w/ nutrition recs
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: peripherals, Right subclavian from OSH - d/c in AM after
   placing two peripherals
   .
   Code: full
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2174-3-13**] 06:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-12**] 04:00 PM
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-03-14 09:41:00 Physician Attending Progress Note
Chief Complaint: Hepatic Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2174-3-13**] 08:20 AM
 PARACENTESIS - At [**2174-3-13**] 11:41 AM
   -Portal Vein thrombosis noted--final read on chronicity pending
   -Large clot noted in rectum--HCT unchanged
   -No clear evidence of bacterial infection in ascites fluid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-3-13**] 12:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2174-3-14**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 100 (95 - 107) bpm
   BP: 116/62(74) {98/45(58) - 124/72(84)} mmHg
   RR: 21 (17 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,030 mL
                                                                    484 mL
   PO:
                                                                    360 mL
             TF:
                                                                     60 mL
                                                                    156 mL
   IVF:
                                                                  1,500 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                    893 mL
                                                                  2,255 mL
   Urine:
                                                                    518 mL
                                                                    155 mL
   NG:
   Stool:
   2,100 mL
   Drains:
   Balance:
                                                                  1,137 mL
                                                                 -1,771 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, Auditory Delay in responses which has
   increased.  She has PEERL clearly this morning, eye openings with
   prompts but no following of commands, no spontaneous movement.  She has
   decreased reflexes and decreased tone bilaterally.
   Labs / Radiology
   9.8 g/dL
   30 K/uL
   135 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   38 mg/dL
   92 mEq/L
   132 mEq/L
   29.0 %
   10.1 K/uL
        [image002.jpg]
                             [**2174-3-12**]  04:05 PM
                             [**2174-3-13**]  03:12 AM
                             [**2174-3-13**]  03:20 PM
                             [**2174-3-14**]  03:26 AM
                             [**2174-3-14**]  05:55 AM
   WBC
   9.1
   9.7
   10.2
   10.1
   Hct
   27.7
   26.4
   25.6
   26.6
   29.0
   Plt
   37
   37
   34
   30
   Cr
   0.8
   0.8
   1.2
   0.8
   Glucose
   105
   95
   120
   135
   Other labs: PT / PTT / INR:24.5/46.0/2.4, CK / CKMB / Troponin-T:20//,
   ALT / AST:26/109, Alk Phos / T Bili:47/37.3, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:127 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:212
   IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Imaging: RUQ U/S--Cirrhosis, ascited PVT
   Assessment and Plan
   44 yo female with h/o ETOH cirrhosis and Tylenol excess now admitted
   with jaundice and hepatic dysfunction.  She has had steroid Rx started
   in past 24 hours and has active issue being considered as to timing of
   portal vein thrombosis contributing to acute worsening.  Found this am
   was blood clot noted around rectal tube
   Altered Mental Status
this is a dense encephaoloapthy which has
   progressed over time in the setting of relative stability of hepatic
   dysfunction.  She has multiple metabolic abnormalities which may be
   contributing to her mental dysfunction.  At this time hepatic
   encephaolopathy, no medication given since arrival here, no focal
   deficits and decreased tone on exam.  This would make hepatic
   encephaolopathy clearly most likely diagnosis with complete PV
   obstruction driving limited response to conventional treatment.
   -Continue with Lactulose
   -Consider Rifaximin
   -Follow exam
   -Repeat head CT for failure to improve today with hepatic
   encephalopathy Rx and/or worsening exam as concern for cerebral edema
   is real
   -Normalize Na+
   Portal Vein Thrombosis-
   -Will look with EGD
   -Will have to consider anticoagulation systemically
   -Will pursue possibility of local therapies given risk of systemic
   bleeding
   EtOH abuse
   -Folate/Thiamine
   -CIWA
   Cirrhosis and Hepatic Failure-
   -Vita K/Lactulose/Predisone
   -CTX 1g q 24
   GI Bleed-Suggestion of active bleeding in the setting of stable HCT
   -EGD today
   -For prominent varices will have to consider possible TIPSS depending
   on GI EGD findings
   -HCT q 4 hours today
   -Follow up fibrinogen
   -Thrombocytopenia
continued and maintained at >30 in the setting of
   active bleeding
   -CVL in place
   -[**Month (only) 11**] need to consider intubation prior to EGD today.
   LE Edema-
   -Patient with ECHO today to consider right sided failure, PPH is
   certainly possible.
   ICU Care
   Nutrition: NPO
Tube Feeds in place
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-12**] 04:00 PM
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition :ICU
   Total time spent: 45

2174-03-15 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TTE: Mild [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4852**] w/ trivial MR. Normal LV systolic function,
   EF >55%. Mild PA systolic HTN. No effusion.
   - CVL removed
   - Hepatology rec: CT abdomen/pelvis - no definite thrombus
   - Stool studies: C. diff neg, rest pending
   - written for NAC drip for 48 hours more per hepatology recs
   - PICC line placed by IR for antibiotics
   - 500 cc NS bolus this AM for low UOP this AM (10cc in 2 hrs)
   - Putting out large BMs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-3-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-14**] 10:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-15**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 105 (93 - 108) bpm
   BP: 133/70(84) {111/62(72) - 138/81(93)} mmHg
   RR: 20 (16 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  1,269 mL
                                                                    884 mL
   PO:
             TF:
                                                                    454 mL
                                                                    262 mL
   IVF:
                                                                    370 mL
                                                                    622 mL
   Blood products:
   Total out:
                                                                  4,878 mL
                                                                  1,445 mL
   Urine:
                                                                    378 mL
                                                                    145 mL
   NG:
   Stool:
                                                                  4,500 mL
                                                                  1,300 mL
   Drains:
   Balance:
                                                                 -3,609 mL
                                                                   -561 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General: resting in bed comfortably
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), reactive to light
   directly and consensually, Sclera icteric, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  soft, non-tender, + distended with ascites, bowel sounds
   present, no rebound tenderness or guarding, unable to assess
   hepatosplenomegaly
   Ext: Warm, well perfused,+ 2+ b/l LE pitting edema to the knees
   Neuro: no asterixis. alert, oriented x 3. Slow speech (long pauses
   before answering a question, but answers are appropriate)
   Labs / Radiology
   32 K/uL
   9.8 g/dL
   143 mg/dL
   2.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   51 mg/dL
   92 mEq/L
   134 mEq/L
   28.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2174-3-13**]  03:12 AM
                             [**2174-3-13**]  03:20 PM
                             [**2174-3-14**]  03:26 AM
                             [**2174-3-14**]  05:55 AM
                             [**2174-3-14**]  12:02 PM
                             [**2174-3-14**]  06:26 PM
                             [**2174-3-14**]  11:53 PM
                             [**2174-3-15**]  02:54 AM
                             [**2174-3-15**]  04:11 AM
                             [**2174-3-15**]  05:34 AM
   WBC
   9.7
   10.2
   10.1
   9.4
   10.0
   Hct
   26.4
   25.6
   26.6
   29.0
   29.0
   27.6
   28.0
   31.0
   28.5
   Plt
   37
   34
   30
   33
   32
   Cr
   0.8
   1.2
   0.8
   2.0
   2.5
   Glucose
   95
   120
   135
   143
   143
   Other labs: PT / PTT / INR:23.4/45.5/2.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:36/123, Alk Phos / T Bili:64/40.9, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:188 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:229
   IU/L, Ca++:9.8 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism here with anemia, jaundice, and altered mental status.
   .
   #  Altered mental status. Patient has AMS that is waxing and [**Doctor Last Name 282**].
   Likely secondary to hepatic encephalopathy that is not clearing due to
   fixed portal vein obstruction. Currently no asterixis but speech
   remains slow and global decreased tone and reflexes.  Also confounded
   by hyponatremia and anemia.  No current source of infection, CXR
   negative for infiltrate.  No abdominal tenderness or WBC to suggest SBP
   and patient was previously treated with three days of Unasyn for
   unclear reason. Head CT from OSH negative.  H/o of alcohol abuse, but
   patient is not delirious and does not appear to be withdrawing from
   alcohol. [**Doctor Last Name **] low on CIWA currently. Head CT here ([**3-13**]) neg for
   acute intracranial process. There is concern also for cerebral edema in
   setting of fulminant liver failure. Will have low threshold to repeat
   head CT if mental status quickly declines or does not clear.
   - Continue ceftriaxone to cover SBP since unclear if patient had this
   on presentation to OSH.
   - f/u blood, urine, sputum, stool culture
   - lactulose -> titrate to [**3-3**] BMs per day
   - lasix to correct hyponatremia
   - Would maintain low threshold to intubate patient as mental status
   declines,
   .
   # Cirrhosis / hyperbilrubinemia / portal vein thrombosis. Patient had
   mild transaminitis with current thrombocytopenia, ascites, LE edema,
   hepatosplenomegaly, and elevated INR to 2.5.  This is likely secondary
   to cirrhosis from alcoholism.  Currently not drinking for 1 month per
   patient and husband.  [**Name (NI) **] recent heavy acetaminophen use may have lead
   to a more precipitous decline in liver function. Would like to further
   delineated the timecourse of portal vein thombosis, as treatment with
   systemic or local anticoagulation is risky in this coagulopathic
   patient. At this time, it seems acute due to no collateral flow in the
   portal ciculation. Would consider further imaging, such as contrasted
   CT, if needed. The ascetic fluid did not appear to be SBP, as WBC was
   only 25, however the patient did receive treatment (Unasyn) for 3 days
   prior to arrival from OSH. With current GI bleed per rectum, EGD would
   be helpful for source identification and possible therapy if active
   bleeding or varices are noted.
   Hyperbilirubinemia likely due to combination of chronic heavy alcohol
   abuse and recent increased acetaminophen use due to plantar fasciitis.
   Per OSH report on presentation, hyperbilirubinemia was predominantly
   indirect (T. bili 17.1, D. bili 5.4).  After receiving 5-10 units of
   PRBCs at OSH, T. bili rose to 37 with D. bili of 23.  [**Month (only) 11**] have element
   of hemolysis but labs will be difficult to interpret in setting of
   liver failure.
   - follow bili - stable
   - follow Hct - stable
   - minimize non-essential meds
   - liver consult recs: continue steroids, will coordinate EGD
   - Will ask Hepatology re: adding rifaximin
   .
   #  Anemia.  Etiology of profound anemia is unclear and likely
   multifactorial, however BRBPR is the most concerning etiology.  Iron
   studies show ACD and baseline HCT from [**2171**] is 28.  Recent viral
   gastroenteritis plus alcohol use may have resulted in marrow
   supresssion.  Reticulocyte count of 4 from OSH argues against hemolysis
   and more towards marrow supression. There is also concern for DIC or
   TTP given low fibrinogen, elevated PTT, and thrombocytopenia, rare
   schistocytes though suspect that these abnormalities are secondary to
   liver failure.   Normal LDH may argue against a microangiopathic
   anemia.  B12 and folate WNL. Had episode of BRBPR the AM of [**3-14**] with
   some clot on sheet. Typed and crossed for 2 units.
   - follow hct: 26.6 -> 29.0 this AM after BRBPR noted
   - Would check q4hr HCT while patient is actively bleeding
   - Plan to get EGD this AM ([**3-14**]), but likely will need colonoscopy as
   well, if no bleeding seen
 did not start bowel prep
   - review peripheral smear
   - f/u DIC labs
 but difficult to assess with liver failure
   - CT abd/pelvis to look for site of bleed, hematoma though no current
   obvious source
 f/u final read
   - consider hematology consult
   .
   #  Thrombocytopenia.  Likely secondary to liver failure and
   splenomegaly.  And evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and hyperbilirubinemia.  However, LDH normal,
   arguing against TMA.
   - follow DIC labs - pending
   - Follow plt count and would transfuse as patient actively bleeding
   - transfuse if plt < 10 or signs of active bleeding
   .
   #  Diarrhea.  Patient had diarrhea prior to admission.  Concern for
   viral etiology vs. med effect (was on magnesium oxide at OSH).  C. diff
   negative at outside hospital.
   - F/u stool studies
   - Stool grossly positive AM of [**3-14**].
   .
   # Hyponatremia.  Likely secondary to ascites and LE edema. Improving.
   - improved with lasix 20 mg IV
   - follow sodium [**Hospital1 **]
   .
   8.  LE edema.  B/l LE pitting edema almost certainly related to liver
   failure, however, will evaluate cardiac function with echo as well.
   - TTE today [**3-14**]
   - Lasix, PRN
   9.  H/o alcohol abuse. [**Doctor Last Name **] low on CIWA currently (only positive for
   subjective feelings of anxiety).
   - continue valium CIWA scale
   - continue vitamins, folate, thiamine
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, on clears -> but will hold with
   declining MS, TF started [**3-13**] w/ nutrition recs
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: peripherals, Right subclavian from OSH - d/c in AM after
   placing two peripherals
   .
   Code: full
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2174-3-15**] 05:38 AM 39.[**Telephone/Fax (5) 4853**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-03-15 11:01:00 Physician Attending Progress Note
Chief Complaint: Encephaolopathy
   Hepatic Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2174-3-14**] 12:30 PM
   -PICC line placed
   -Modest decrease in urine output this morning--mild fluid
   responsiveness
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-3-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-14**] 10:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2174-3-15**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 106 (93 - 108) bpm
   BP: 131/76(89) {111/62(72) - 138/81(93)} mmHg
   RR: 19 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  1,269 mL
                                                                  1,154 mL
   PO:
             TF:
                                                                    454 mL
                                                                    407 mL
   IVF:
                                                                    370 mL
                                                                    658 mL
   Blood products:
   Total out:
                                                                  4,878 mL
                                                                  1,555 mL
   Urine:
                                                                    378 mL
                                                                    255 mL
   NG:
   Stool:
                                                                  4,500 mL
                                                                  1,300 mL
   Drains:
   Balance:
                                                                 -3,609 mL
                                                                   -401 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   32 K/uL
   143 mg/dL
   2.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   51 mg/dL
   92 mEq/L
   134 mEq/L
   28.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2174-3-13**]  03:12 AM
                             [**2174-3-13**]  03:20 PM
                             [**2174-3-14**]  03:26 AM
                             [**2174-3-14**]  05:55 AM
                             [**2174-3-14**]  12:02 PM
                             [**2174-3-14**]  06:26 PM
                             [**2174-3-14**]  11:53 PM
                             [**2174-3-15**]  02:54 AM
                             [**2174-3-15**]  04:11 AM
                             [**2174-3-15**]  05:34 AM
   WBC
   9.7
   10.2
   10.1
   9.4
   10.0
   Hct
   26.4
   25.6
   26.6
   29.0
   29.0
   27.6
   28.0
   31.0
   28.5
   Plt
   37
   34
   30
   33
   32
   Cr
   0.8
   1.2
   0.8
   2.0
   2.5
   Glucose
   95
   120
   135
   143
   143
   Other labs: PT / PTT / INR:23.4/45.5/2.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:36/123, Alk Phos / T Bili:64/40.9, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:188 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:229
   IU/L, Ca++:9.8 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Microbiology: Hep A AB-pos
   Hep B s Ab--pos
   E.Coli--eg
   Assessment and Plan
   44 yo female with history of cirrhosis and now admitted with hepatic
   failure and persistent altered mental status.  She has had extensive
   evaluations for possible source and the findings of portal vein
   thrombosis on ultrasound were provocative for possible source of
   increased shunt leading to worsening hepatic encephalopathy has been
   working diagnosis.  This combined with additional metabolic insults may
   well be contributing to persistent findings of encephalopathy.  The
   trigger for this of background EtOH and cirrhosis with chronic Tylenol
   excess.
   CIRRHOSIS OF LIVER, ALCOHOLIC
   -Continue supportive care
   -Will follow up with final serologies
   -F/U Paracentesis for diagnostic and therapeutic tap
   Portal Vein Thrombosis-
   -Continue to follow exam
   -CT scan would argue against chronic present
   ALTERED MENTAL STATUS (NOT DELIRIUM)
   -Lactulose
   -Rifaxamin
   -Much improved exam which may be related to Rx for hepatic
   encephalopathy
   -Re-tap ascites
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2174-3-15**] 05:38 AM 39.[**Telephone/Fax (5) 4853**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2174-03-16 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - All stool cx negative
   - Hct drop from 28.5 to 22.1; gave 2 u pRBCs
   - Diagnostic Paracentesis: 50cc blood-tinged ascitic fluid removed.
   Sent for cell count, culture.
   - Ceftriaxone stopped, and zosyn started for SBP Rx
   - Cr continuing to worsen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2174-3-15**] 07:50 PM
   Ceftriaxone - [**2174-3-16**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-16**] 05:29 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-16**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 96 (96 - 112) bpm
   BP: 144/78(93) {99/63(75) - 158/90(105)} mmHg
   RR: 16 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  3,634 mL
                                                                    849 mL
   PO:
                                                                    240 mL
           TF:
                                                                    938 mL
                                                                    253 mL
   IVF:
                                                                  1,516 mL
                                                                    386 mL
   Blood products:
                                                                    850 mL
                                                                    150 mL
   Total out:
                                                                  3,030 mL
                                                                    550 mL
   Urine:
                                                                    830 mL
                                                                    550 mL
   NG:
   Stool:
                                                                  2,200 mL
   Drains:
   Balance:
                                                                    604 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General: resting in bed comfortably
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), reactive to light
   directly and consensually, Sclera icteric, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  soft, non-tender, + distended with ascites, bowel sounds
   present, no rebound tenderness or guarding, unable to assess
   hepatosplenomegaly
   Ext: Warm, well perfused,+ 2+ b/l LE pitting edema to the knees
   Neuro: no asterixis. alert, oriented x 3. Slow speech (long pauses
   before answering a question, but answers are appropriate)
   Labs / Radiology
   36 K/uL
   9.9 g/dL
   178 mg/dL
   3.0 mg/dL
   20 mEq/L
   4.1 mEq/L
   59 mg/dL
   97 mEq/L
   136 mEq/L
   26.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2174-3-14**]  03:26 AM
                             [**2174-3-14**]  05:55 AM
                             [**2174-3-14**]  12:02 PM
                             [**2174-3-14**]  06:26 PM
                             [**2174-3-14**]  11:53 PM
                             [**2174-3-15**]  02:54 AM
                             [**2174-3-15**]  04:11 AM
                             [**2174-3-15**]  05:34 AM
                             [**2174-3-15**]  07:50 PM
                             [**2174-3-16**]  02:23 AM
   WBC
   10.1
   9.4
   10.0
   7.7
   8.9
   Hct
   26.6
   29.0
   29.0
   27.6
   28.0
   31.0
   28.5
   22.1
   26.5
   Plt
   30
   33
   32
   35
   36
   Cr
   0.8
   2.0
   2.5
   3.1
   3.0
   Glucose
   135
   143
   143
   153
   178
   Other labs: PT / PTT / INR:25.1/43.4/2.5, CK / CKMB / Troponin-T:20//,
   ALT / AST:40/99, Alk Phos / T Bili:55/44.0, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:188 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.4 g/dL, LDH:226
   IU/L, Ca++:9.8 mg/dL, Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   .
   Radiology
   .
   - CT ABD
 final read:
   1. No apparent filling defects within the main [**Year (4 digits) 4182**] [**Year (4 digits) 4244**] to suggest
   thrombosis.
   2. Findings consistent with cirrhosis including ascites, varices, and
   nodular and shrunken appearance of the liver with caudate hypertrophy.
   3. Sludge within the gallbladder, unchanged. No evidence of
   intrahepatic or extrahepatic biliary dilatation.
   4. Subcentimeter hypodensity within the right lobe of the liver,
   incompletely characterized on this single phase study.
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism here with anemia, jaundice, and altered mental status.
   .
   #  Altered mental status. Patient has AMS that is waxing and [**Doctor Last Name 282**],
   clearing up the AM of [**3-15**].  Likely secondary to hepatic encephalopathy
   that is not clearing due to fixed [**Date Range 4182**] [**Date Range 4244**] obstruction. Also
   confounded by hyponatremia and anemia.  No clear source of infection,
   CXR negative for infiltrate.  Having abdominal tenderness B/L [**3-15**].
   Second paracentesis showed more of an SBP picture. Head CT from OSH
   negative.  H/o of alcohol abuse, but patient is not delirious and does
   not appear to be withdrawing from alcohol. [**Doctor Last Name **] low on CIWA
   currently. Head CT here ([**3-13**]) neg for acute intracranial process.
   There is concern also for cerebral edema in setting of fulminant liver
   failure. Will have low threshold to repeat head CT if mental status
   quickly declines or does not clear.
   - Second paracentesis showed incr WBC with L shift, changed CTX to
   Zosyn, per ID recs
   - f/u blood, urine, sputum, stool culture (Negative for C. diff, E.
   coli O175:H7, Campy, Shigella, Salmonella, GNR; - viruses pending)
   - lactulose -> titrate to [**3-3**] BMs per day
   - Consider therapeutic paracentesis today as abd girth increasing
   .
   # Cirrhosis / hyperbilirubinemia / [**Month/Day (1) 4182**] [**Month/Day (1) 4244**] thrombosis. Patient had
   mild transaminitis with stable thrombocytopenia, ascites, LE edema,
   hepatosplenomegaly, and elevated INR.  This is likely secondary to
   cirrhosis from alcoholism with embarrassment by chronic acetaminophen
   use.  Currently not drinking for 1 month per patient and husband.
   [**Name (NI) **] [**Name2 (NI) 4244**] thrombosis seems acute due to no collateral flow in the
   [**Name2 (NI) 4182**] circulation on CT. First paracentesis not suggestive of SBP. EGD
   deferred by GI as hemorrhage likely from traumatic Mallencott
   placement. Hyperbilirubinemia remains stable, but will likely clear
   slowly over time.
   - follow bili
 stable at 40s
   - minimize non-essential meds
   - liver consult recs: continue steroids and rifaximin, continue albumin
   1g/kg x2 days, add octreotide and midodrine
   .
   #  Anemia.  Etiology of profound anemia is unclear and likely
   multifactorial, but is stable at this time. BRBPR is the most
   concerning etiology, but seems to have resolved.  Iron studies show ACD
   and baseline HCT from [**2171**] is 28.  Recent viral gastroenteritis plus
   alcohol use may have resulted in marrow supresssion.  Reticulocyte
   count of 4 from OSH argues against hemolysis and more towards marrow
   suppression. There is also concern for DIC or TTP given low fibrinogen,
   elevated PTT, and thrombocytopenia, rare schistocytes though suspect
   that these abnormalities are secondary to liver failure.   Normal LDH
   may argue against a microangiopathic anemia.  B12 and folate WNL.
   - follow hct
 dropped 6 pts overnight [**3-15**], transfused 2U PRBCs, HCT
   from 22.1 -> 26.5
   - Stools remain guaiac pos
   - f/u DIC labs
 but difficult to assess with liver failure
   - consider hematology consult if worsens
   .
   # Acute renal failure. Cr trending up from 0.8 to 3.0. UOP tapered off,
   but picked up after starting albumin infusion. FENa still <1%, so
   either prerenal hypovolemia from large stool output, ATN, although no
   recent known nephrotoxic drugs have been administered, or hepatorenal
   syndrome. If no improvement in Cr over the course of 48hrs of albumin
   therapy, then hepatorenal syndrome likely.
   - Cont albumin 1g/kg
   - Consider Renal consult today ([**3-16**])
   - Trend Cr
   .
   #  Thrombocytopenia. Stable. Likely secondary to liver failure and
   splenomegaly.  And evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and hyperbilirubinemia.  However, LDH normal,
   arguing against TMA.
   - Follow plt count and transfuse if plt < 10 or signs of brisk bleeding
   .
   #  Diarrhea.  Patient had diarrhea prior to admission.  Concern for
   viral etiology vs. med effect (was on magnesium oxide at OSH).  C. diff
   negative at outside hospital. Remains guaiac positive
   - Stool no longer grossly bloody, will titrate lactulose to BMs
   .
   # Hyponatremia.  Likely secondary to ascites and LE edema. Improving.
   - Follow daily lytes
   .
   8.  LE edema.  Stable. B/l LE pitting edema almost certainly related to
   liver failure, as TTE did not show definitive etiology.
   9.  H/o alcohol abuse. [**Doctor Last Name **] low on CIWA currently (only positive for
   subjective feelings of anxiety).
   - continue valium CIWA scale
   - continue vitamins, folate, thiamine
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, TF started [**3-13**] w/ nutrition recs,
   ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: peripherals
   .
   Code: full
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-03-16 10:30:00 Physician Attending Progress Note
Chief Complaint: Hepatic Failure
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2174-3-15**] 02:55 PM
   -Results consistent with SBP
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2174-3-15**] 07:50 PM
   Ceftriaxone - [**2174-3-16**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-16**] 05:29 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-16**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2174-3-16**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 109 (96 - 112) bpm
   BP: 135/74(89) {99/63(75) - 158/90(117)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  3,634 mL
                                                                  1,169 mL
   PO:
                                                                    240 mL
           TF:
                                                                    938 mL
                                                                    411 mL
   IVF:
                                                                  1,516 mL
                                                                    488 mL
   Blood products:
                                                                    850 mL
                                                                    150 mL
   Total out:
                                                                  3,030 mL
                                                                    890 mL
   Urine:
                                                                    830 mL
                                                                    890 mL
   NG:
   Stool:
                                                                  2,200 mL
   Drains:
   Balance:
                                                                    604 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   36 K/uL
   178 mg/dL
   3.0 mg/dL
   20 mEq/L
   4.1 mEq/L
   59 mg/dL
   97 mEq/L
   136 mEq/L
   26.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2174-3-14**]  03:26 AM
                             [**2174-3-14**]  05:55 AM
                             [**2174-3-14**]  12:02 PM
                             [**2174-3-14**]  06:26 PM
                             [**2174-3-14**]  11:53 PM
                             [**2174-3-15**]  02:54 AM
                             [**2174-3-15**]  04:11 AM
                             [**2174-3-15**]  05:34 AM
                             [**2174-3-15**]  07:50 PM
                             [**2174-3-16**]  02:23 AM
   WBC
   10.1
   9.4
   10.0
   7.7
   8.9
   Hct
   26.6
   29.0
   29.0
   27.6
   28.0
   31.0
   28.5
   22.1
   26.5
   Plt
   30
   33
   32
   35
   36
   Cr
   0.8
   2.0
   2.5
   3.1
   3.0
   Glucose
   135
   143
   143
   153
   178
   Other labs: PT / PTT / INR:25.1/43.4/2.5, CK / CKMB / Troponin-T:20//,
   ALT / AST:40/99, Alk Phos / T Bili:55/44.0, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:188 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.4 g/dL, LDH:226
   IU/L, Ca++:9.8 mg/dL, Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Imaging: CXR--Low lung volmes, minimal infiltrates seen in that
   setting.
   Assessment and Plan
   44 yo female with known history of cirrhosis anad with tylenol
   ingestion chronically has had subsequent evlution of signfiicant
   hepatic failure.  Over time she has had some improvement in mental
   status with Rx for possible SBP and with Rx for hepatic encephalopathy.
   1) HEPATORENAL SYNDROME
   -Octreotide/Midodrine/Albumin 1g/Kg
   -Did remove minimal fluid yesterday for diagnostic tap
   -Continue with support in regards to decreased SVR and inadequate
   volume intra-vascularly
   -Will need to consider central venous pressure monitoring if response
   not seen
   2)Altered Mental Status-
   -SBP
treated by Zosyn now
   -Continue Lactulose and Rifax for control of hepatic encephalopathy
   3)Portal Vein Thrombosis/Cirrhosis-
   -T. Bili remains stable and elevated
   -Continue with Steroid Rx
   -Will need to support renal function maximally
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-16**] 06:19 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition : ICU and consider transfer to floor if renal function
   stabilized
   Total time spent: 35

2174-03-17 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Liver recs: No therapeutic paracentesis unless bladder pressure is
   high as may worsen ARF; will perform EGD if rapid decline in HCT or
   brisk GI bleeding noted; OK to discontinue prednisone as increase in
   WBC seen on paracentesis
   - Bladder pressure 15, not elevated
   - Made DNR/DNI
   - Hct 28.0 -> 23.5 -> Gave 2U PRBCs -> Repeat Hct
   - TF stopped overnight due to high residuals
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2174-3-15**] 07:50 PM
   Ceftriaxone - [**2174-3-17**] 12:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-17**] 05:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-16**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-17**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 117 (106 - 118) bpm
   BP: 140/70(84) {113/60(73) - 140/75(117)} mmHg
   RR: 21 (17 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  3,350 mL
                                                                    934 mL
   PO:
   TF:
                                                                    863 mL
                                                                    196 mL
   IVF:
                                                                  1,022 mL
                                                                    271 mL
   Blood products:
                                                                  1,225 mL
                                                                    467 mL
   Total out:
                                                                  2,740 mL
                                                                  1,270 mL
   Urine:
                                                                  1,760 mL
                                                                    850 mL
   NG:
                                                                    180 mL
                                                                    220 mL
   Stool:
                                                                    800 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                    610 mL
                                                                   -336 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General: resting in bed comfortably
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), reactive to light
   directly and consensually, Sclera icteric, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  soft, non-tender, + distended with ascites, bowel sounds
   present, no rebound tenderness or guarding, unable to assess
   hepatosplenomegaly
   Ext: Warm, well perfused,+ 2+ b/l LE pitting edema to the knees
   Neuro: no asterixis. alert, oriented x 3. Slow speech (long pauses
   before answering a question, but answers are appropriate)
   Labs / Radiology
   32 K/uL
   8.6 g/dL
   134 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.1 mEq/L
   66 mg/dL
   102 mEq/L
   146 mEq/L
   25.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2174-3-14**]  06:26 PM
                             [**2174-3-14**]  11:53 PM
                             [**2174-3-15**]  02:54 AM
                             [**2174-3-15**]  04:11 AM
                             [**2174-3-15**]  05:34 AM
                             [**2174-3-15**]  07:50 PM
                             [**2174-3-16**]  02:23 AM
                             [**2174-3-16**]  11:08 AM
                             [**2174-3-16**]  05:07 PM
                             [**2174-3-17**]  03:50 AM
   WBC
   9.4
   10.0
   7.7
   8.9
   9.7
   Hct
   27.6
   28.0
   31.0
   28.5
   22.1
   26.5
   28.0
   23.5
   25.0
   Plt
   33
   32
   35
   36
   32
   Cr
   2.0
   2.5
   3.1
   3.0
   1.8
   2.0
   Glucose
   143
   143
   153
   178
   145
   134
   Other labs: PT / PTT / INR:25.0/40.9/2.5, CK / CKMB / Troponin-T:20//,
   ALT / AST:40/91, Alk Phos / T Bili:56/49.0, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:188 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.7 g/dL, LDH:209
   IU/L, Ca++:10.0 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism here with anemia, jaundice, and altered mental status.
   .
   #  Altered mental status. Patient has AMS that is waxing and [**Doctor Last Name 282**],
   improving daily.  Likely secondary to hepatic encephalopathy. Iniitally
   confounded by hyponatremia and anemia.  Second paracentesis showed more
   of an SBP picture, so infection also contributing. H/o of alcohol
   abuse, but [**Doctor Last Name 3869**] low on CIWA currently. Head CT from OSH negative.
   Head CT here ([**3-13**]) neg for acute intracranial process. There is
   concern also for cerebral edema in setting of fulminant liver failure.
   Will have low threshold to repeat head CT if mental status quickly
   declines or does not clear.
   - Second paracentesis showed incr WBC with L shift, changed CTX to
   Zosyn, per ID recs
   - f/u blood, urine, sputum, stool culture (Negative for C. diff, E.
   coli O175:H7, Campy, Shigella, Salmonella, GNR; - viruses pending)
   - lactulose -> titrate to [**3-3**] BMs per day
   - Consider therapeutic paracentesis today as abd girth increasing
   will ask Hepatology
   .
   # Cirrhosis / hyperbilirubinemia / [**Month/Day (1) 4182**] [**Month/Day (1) 4244**] thrombosis. Patient had
   mild transaminitis with stable thrombocytopenia, ascites, LE edema,
   hepatosplenomegaly, and elevated INR.  This is likely secondary to
   cirrhosis from alcoholism with embarrassment by chronic acetaminophen
   use.  Currently not drinking for 1 month per patient and husband.
   [**Name (NI) **] [**Name2 (NI) 4244**] thrombosis seems acute due to no collateral flow in the
   [**Name2 (NI) 4182**] circulation on CT. First paracentesis not suggestive of SBP. EGD
   deferred by GI as hemorrhage likely from traumatic Mallencott
   placement. Hyperbilirubinemia remains stable, but will likely clear
   slowly over time.
   - follow bili
 stable at 40s
   - minimize non-essential meds
   - liver consult recs: continue lactulose, steroids and rifaximin,
   continue albumin 1g/kg x2 days, add octreotide and midodrine
   .
   #  Anemia.  Etiology of profound anemia is unclear and likely
   multifactorial, but is stable at this time. BRBPR is the most
   concerning etiology, but seems to have resolved.  Iron studies show ACD
   and baseline HCT from [**2171**] is 28.  Recent viral gastroenteritis plus
   alcohol use may have resulted in marrow supresssion.  Reticulocyte
   count of 4 from OSH argues against hemolysis and more towards marrow
   suppression. There is also concern for DIC or TTP given low fibrinogen,
   elevated PTT, and thrombocytopenia, rare schistocytes though suspect
   that these abnormalities are secondary to liver failure.   Normal LDH
   may argue against a microangiopathic anemia.  B12 and folate WNL.
   - follow hct
 dropped 6 pts overnight [**3-15**], transfused 2U PRBCs, HCT
   from 22.1 -> 26.5
   - Stools remain guaiac pos, but not grossly bloody
   - Will transfuse 2U FFP to reverse potential slow hemorrhage
   - Consider hematology consult if worsens
   .
   # Acute renal failure. Cr trending up from 0.8 to 3.0. UOP tapered off,
   but picked up after starting albumin infusion. FENa still <1%, so
   either prerenal hypovolemia from large stool output, ATN, although no
   recent known nephrotoxic drugs have been administered, or hepatorenal
   syndrome. If no improvement in Cr over the course of 48hrs of albumin
   therapy, then hepatorenal syndrome likely.
   - Cont albumin 1g/kg
   - Obtain bladder pressure for obstruction as cause
   - Trend Cr
   .
   #  Thrombocytopenia. Stable. Likely secondary to liver failure and
   splenomegaly.  And evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and hyperbilirubinemia.  However, LDH normal,
   arguing against TMA. E. coli O175:H7 neg argues against TTP/HUS.
   - Follow plt count and transfuse if plt < 10 or signs of brisk bleeding
   .
   #  Diarrhea.  Patient had diarrhea prior to admission.  Concern for
   viral etiology vs. med effect (was on magnesium oxide at OSH).  C. diff
   negative at outside hospital. Remains guaiac positive
   - Stool no longer grossly bloody, will titrate lactulose to BMs
   .
   # Hyponatremia.  Likely secondary to ascites and LE edema. Improving.
   - Follow daily lytes
   .
   #.  LE edema.  Stable. B/l LE pitting edema almost certainly related to
   liver failure, as TTE did not show definitive etiology.
   #.  H/o alcohol abuse. [**Doctor Last Name **] low on CIWA currently (only positive for
   subjective feelings of anxiety).
   - continue valium CIWA scale
   - continue vitamins, folate, thiamine
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, TF started [**3-13**] w/ nutrition recs,
   ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: peripherals
   .
   Code: full
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: Will touch base with Hepatology re: possible transfer back
   to their service
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-16**] 06:15 AM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2174-03-17 10:29:00 Physician Attending Progress Note
Chief Complaint: Hepatic Failure
   SBP
   HPI:
   24 Hour Events:
   Prednisone discontinued
   DNR/DNI status confirmed
   HCT decrease to 25 and additional unit PRBC given
   Bladder pressure measured at 15
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2174-3-15**] 07:50 PM
   Ceftriaxone - [**2174-3-17**] 12:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-17**] 05:58 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2174-3-17**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 117 (106 - 118) bpm
   BP: 140/70(84) {113/60(73) - 140/75(88)} mmHg
   RR: 21 (18 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  3,350 mL
                                                                  1,172 mL
   PO:
   TF:
                                                                    863 mL
                                                                    228 mL
   IVF:
                                                                  1,022 mL
                                                                    477 mL
   Blood products:
                                                                  1,225 mL
                                                                    467 mL
   Total out:
                                                                  2,740 mL
                                                                  1,270 mL
   Urine:
                                                                  1,760 mL
                                                                    850 mL
   NG:
                                                                    180 mL
                                                                    220 mL
   Stool:
                                                                    800 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                    610 mL
                                                                    -98 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Increased
   abdominal distention and some tenderness noted
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   32 K/uL
   134 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.1 mEq/L
   66 mg/dL
   102 mEq/L
   146 mEq/L
   25.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2174-3-14**]  06:26 PM
                             [**2174-3-14**]  11:53 PM
                             [**2174-3-15**]  02:54 AM
                             [**2174-3-15**]  04:11 AM
                             [**2174-3-15**]  05:34 AM
                             [**2174-3-15**]  07:50 PM
                             [**2174-3-16**]  02:23 AM
                             [**2174-3-16**]  11:08 AM
                             [**2174-3-16**]  05:07 PM
                             [**2174-3-17**]  03:50 AM
   WBC
   9.4
   10.0
   7.7
   8.9
   9.7
   Hct
   27.6
   28.0
   31.0
   28.5
   22.1
   26.5
   28.0
   23.5
   25.0
   Plt
   33
   32
   35
   36
   32
   Cr
   2.0
   2.5
   3.1
   3.0
   1.8
   2.0
   Glucose
   143
   143
   153
   178
   145
   134
   Other labs: PT / PTT / INR:25.0/40.9/2.5, CK / CKMB / Troponin-T:20//,
   ALT / AST:40/91, Alk Phos / T Bili:56/49.0, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:188 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.7 g/dL, LDH:209
   IU/L, Ca++:10.0 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   44 yo female with history of cirrhosis and now admit with hepatic
   failure in the setting of tylenol use and with course complicated by
   likely portan vein thrombosis noted on U/S but not confirmed on CT
   scan.  In this setting she has had fluctuation in mental status and
   with concerning findings of anemia with some response to transfusion
   but with continued increase in T. Bili
   1)Renal Failure-- HEPATORENAL SYNDROME vs. Pre-renal azotemia
   suspected-  Has had favorable trend in Cr with improved volume
   delivered through albumin
   -Follow Cr
   -Urine output improved
   2)Altered Mental Status-
   -Continue with treatment for hepatic encephalopathy
   -Minimize sedating medications
   -Rx renal failure
   3)Hyperbilirubinemia/Cirrhosis-
   -Continue to follow
   -Steroids stopped
   -Will fractionate bilirubin as needed but is dominant direct bilirubin
   at this time which is consistent with intra-hepatic cholestasis with
   normal Alk/Phos.
   4)Spontaneous Bacterial Peritonitis-
   -Continue with Zosyn
   5)Anemia
Does have acute decrease in HCT.  No evidence of active GI
   tract blood loss.  [**Month (only) 11**] be bleeding at site of paracentesis and
   intra-abdominal but not clearly confirmed on previous tap.
   -Transfuse as needed
   -Repeat para is source needed to be confirmed
   -Will evaluate for possible hemolysis if further decline seen
   -Will work with FFP to look to normalize PT for 24 hours to minimize
   bleeding
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-16**] 06:15 AM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2174-03-18 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct 25 -> Gave 1 u pRBC ->  Post-tx Hct 25 -> 26
   - Gave 2 u FFP for coagulopathy -> Repeat INR 2.0; 2 uints at 10 pm INR
   back to 2.4
   - Hepatology: restart NAC; vanc 1g, dose per levels
   - KUB done: Ascites. No evidence of obstruction or ileus.
   - Nutrition: continue MVI and minerals, Change TF to Novasource Renal
   c/  goal rate of 30mL/hr; If pt continues c/ high residuals, would
   advance FT past pylorus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2174-3-15**] 07:50 PM
   Ceftriaxone - [**2174-3-17**] 12:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-17**] 05:58 AM
   Vancomycin - [**2174-3-17**] 04:08 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-18**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 106 (106 - 121) bpm
   BP: 112/48(65) {105/48(65) - 145/80(95)} mmHg
   RR: 15 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  3,783 mL
                                                                  1,016 mL
   PO:
           TF:
                                                                    532 mL
                                                                    212 mL
   IVF:
                                                                  1,091 mL
                                                                    102 mL
   Blood products:
                                                                  1,680 mL
                                                                    551 mL
   Total out:
                                                                  2,920 mL
                                                                  1,880 mL
   Urine:
                                                                  2,100 mL
                                                                    680 mL
   NG:
                                                                    220 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    863 mL
                                                                   -864 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General: awake but non-verbal, not responding to questions
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), reactive to light
   directly and consensually, Sclera icteric, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  soft, non-tender, + distended with ascites, bowel sounds
   present, no rebound tenderness or guarding, unable to assess
   hepatosplenomegaly
   Ext: Warm, well perfused,+ [**2-1**]+ b/l LE pitting edema to the knees
   Neuro: Alert. Non-verbal. + eye tracking.
   Labs / Radiology
   39 K/uL
   9.8 g/dL
   144 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.0 mEq/L
   72 mg/dL
   107 mEq/L
   150 mEq/L
   25.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2174-3-15**]  04:11 AM
                             [**2174-3-15**]  05:34 AM
                             [**2174-3-15**]  07:50 PM
                             [**2174-3-16**]  02:23 AM
                             [**2174-3-16**]  11:08 AM
                             [**2174-3-16**]  05:07 PM
                             [**2174-3-17**]  03:50 AM
                             [**2174-3-17**]  03:21 PM
                             [**2174-3-17**]  09:28 PM
                             [**2174-3-18**]  03:52 AM
   WBC
   10.0
   7.7
   8.9
   9.7
   10.9
   Hct
   28.5
   22.1
   26.5
   28.0
   23.5
   25.0
   25.0
   26.0
   25.4
   Plt
   32
   35
   36
   32
   39
   Cr
   2.5
   3.1
   3.0
   1.8
   2.0
   1.8
   1.2
   Glucose
   143
   153
   178
   145
   134
   162
   144
   Other labs: PT / PTT / INR:22.5/38.8/2.2, CK / CKMB / Troponin-T:20//,
   ALT / AST:50/103, Alk Phos / T Bili:60/48.0, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:188 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.7 g/dL, LDH:209
   IU/L, Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.4 mg/dL
   RBC morphology: 2+ anisocytosis, 1+ poikilo 1+ target  Occ schisto  1+
   Burr cells Occ bite cells
   [**3-13**], [**3-15**] peritoneal fluid 2+ PMNs, nomicroorganisms. cultures NGTD
   Catheter tip culture no growth (final)
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism here with anemia, jaundice, and altered mental status.
   .
   #  Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Initially was hyponatremic on presentation, now
   persistently hypernatremic (suspect tube feeds)
   - Head CT on [**3-13**] neg for acute intracranial process. Consider repeat
   head CT if suspect cerebral edema in setting of fulminant liver failure
   - Continue lactulose and rifampin (currently stooling well)
   - Treat hypernatremia as below
   .
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/p diagnostic paracentesis -  Second
   tap showed incr WBC with L shift, changed CTX to Zosyn, per informal ID
   recs
   - Cultures NGTD
   - f/u pending cultures
   - Will not do therapeutic para per liver recs, since bladder pressure
   is not elevated.
   .
   #  Anemia: likely multifactorial. Baseline anemia of chronic disease,
   with low grade GI bleed (stools guaiac pos, not grossly bloody), and
   likely bleeding into the abdomen, causing the drop in hematocrit.
   Unlikely that the patient is hemolyzing, since lab data underwhelming -
   low retic index, direct bilirubinemia and normal LDH
   - Recheck retic index, hemolysis labs
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, higher if actively bleeding. Will treat with aggressive FFP to
   Will give FFP today to curtail the bleeding and reverse coagulopathy
   - Appreciate liver recs; EGD if evidence of brisk GIB
   - Check RBC morphologies (showed rare schistocytes in the past) for
   ?hemolysis (but low retic index, direct bilirubinemia and normal LDH
   argues against this)
   # Cirrhosis / hyperbilirubinemia / [**Month/Year (2) 4182**] [**Month/Year (2) 4244**] thrombosis. Patient had
   mild transaminitis with stable thrombocytopenia, ascites, LE edema,
   hepatosplenomegaly, and elevated INR.  This is likely secondary to
   cirrhosis from alcoholism with embarrassment by chronic acetaminophen
   use.  Currently not drinking for 1 month per patient and husband.
   [**Name (NI) **] [**Name2 (NI) 4244**] thrombosis seems acute due to no collateral flow in the
   [**Name2 (NI) 4182**] circulation on CT. EGD deferred by GI as guaiac pos stools may
   be from traumatic rectal tube placement.
   - Bili rising.
   - minimize non-essential meds
   - appreciate liver recs: continue lactulose, rifaximin, octreotide and
   midodrine. Pt completed 2 days of albumin infusion and steroids were
   stopped per liver.
   .
   # Acute renal failure. Cr trended up from 0.8 to peak of 3.0. FENa <1%,
   thus pre-renal due to hypovolemia (large stool output) or hepatorenal
   syndrome. Cr improved after albumin infusion, which argues against
   HRS.
   - Trend Cr
   - Renally dose meds.
   .
   #  Thrombocytopenia. Stable. Likely secondary to liver failure and
   splenomegaly.  And evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and hyperbilirubinemia.  However, LDH normal,
   arguing against TMA. E. coli O175:H7 neg argues against TTP/HUS.
   - Follow plt count and transfuse if plt < 10 or signs of brisk bleeding
   .
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - Mix meds in D5W, encourage PO free water, flush with free water in
   between TF
   .
   #.  LE edema.  Stable. B/l LE pitting edema almost certainly related to
   liver failure, as TTE did not show definitive etiology.
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, TF per nutrition recs (appreciate
   it!), ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: peripherals
   .
   Code: DNR/DNI
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: ICU for now; to [**Doctor Last Name 2572**]/[**Doctor Last Name **] when ready
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-17**] 02:47 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2174-03-18 11:26:00 Physician Attending Progress Note
Chief Complaint: Hepatic Failure
   Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Anemia persistent
   Vanco suggested
   INR Remains elevated
                                  History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2174-3-15**] 07:50 PM
   Ceftriaxone - [**2174-3-17**] 12:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-17**] 05:58 AM
   Vancomycin - [**2174-3-17**] 04:08 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99.6
   Respiratory: Tachypnea
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2174-3-18**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 109 (106 - 121) bpm
   BP: 133/75(87) {105/48(65) - 145/80(95)} mmHg
   RR: 22 (15 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  3,783 mL
                                                                  1,912 mL
   PO:
           TF:
                                                                    532 mL
                                                                    334 mL
   IVF:
                                                                  1,091 mL
                                                                    361 mL
   Blood products:
                                                                  1,680 mL
                                                                    816 mL
   Total out:
                                                                  2,920 mL
                                                                  2,225 mL
   Urine:
                                                                  2,100 mL
                                                                  1,025 mL
   NG:
                                                                    220 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    863 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Distended, Tender: Diffusely
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   39 K/uL
   144 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.0 mEq/L
   72 mg/dL
   107 mEq/L
   150 mEq/L
   25.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2174-3-15**]  04:11 AM
                             [**2174-3-15**]  05:34 AM
                             [**2174-3-15**]  07:50 PM
                             [**2174-3-16**]  02:23 AM
                             [**2174-3-16**]  11:08 AM
                             [**2174-3-16**]  05:07 PM
                             [**2174-3-17**]  03:50 AM
                             [**2174-3-17**]  03:21 PM
                             [**2174-3-17**]  09:28 PM
                             [**2174-3-18**]  03:52 AM
   WBC
   10.0
   7.7
   8.9
   9.7
   10.9
   Hct
   28.5
   22.1
   26.5
   28.0
   23.5
   25.0
   25.0
   26.0
   25.4
   Plt
   32
   35
   36
   32
   39
   Cr
   2.5
   3.1
   3.0
   1.8
   2.0
   1.8
   1.2
   Glucose
   143
   153
   178
   145
   134
   162
   144
   Other labs: PT / PTT / INR:22.5/38.8/2.2, CK / CKMB / Troponin-T:20//,
   ALT / AST:50/103, Alk Phos / T Bili:60/48.0, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:188 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.7 g/dL, LDH:209
   IU/L, Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.4 mg/dL
   Imaging: KUB--no obstruction or ileus
   Microbiology: BC--NGTD
   Assessment and Plan
   44 yo female with history of cirrhosis and now with hepatic failure in
   the setting of Tylenol ingestion chronically and with persistent
   altered mental status consistent with enceophalopathy.  She has some
   persistent anemia with possible sources led by hemolysis or blood loss
   acutely with intraperitoneal perhaps most likely.
   1)Altered Mental Status-
   -Will continue to support
   -Vanco/Zosyn for possible SBP as source
   -Will continue with lactulose/Rifax and minimize any sedating
   medications
   -Patient with slow trend to better, but
   -need to normalize increased Na+
   2)Cirrhosis
Prognosis discussed by Dr. [**Last Name (STitle) 416**] and team with patient
   -Will continue to support renal function with volume and
   -Midodrine/Octreotide
   3)Anemia-Certainly hemolysis is possible.  Additional concern is for
   ongoing blood loss into peritoneal cavity in the setting of recent
   procedure and coagulopathy.  Blood loss into GI tract is possible but
   less likely.  Will
   -Check hemolysis labs in follow up
Retic index
   -Occasional shistocytes
   -continue to check HCT q 8 hours
   -Follow abdominal exam and favor diagnostic tap if intervention desired
   as previous tap was with >100,000 RBC
will normalize INR to work to
   stop bleeding.
   -Will have to follow volume status
   4)Acute Renal Failure-
   -Improved renal function with support of perfusion both with volume and
   SVR management with octreotide and Midodrine
   -Continue with adjustment in medication dosing
   -Favor D/C of Midodrine/Octreotide if GI in agreement
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-17**] 02:47 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-13**] 09:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Will consider transfer out to the medical
   floor if HCT has been assured to be stable.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2174-03-19 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2174-3-18**] 05:16 PM
   - PICC placed
   - 8 units FFP given
   - HCT 24 -> 29 and plt 30 -> 45 without transfusion of RBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-3-17**] 12:52 AM
   Vancomycin - [**2174-3-18**] 08:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-19**] 05:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-19**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 109 (100 - 110) bpm
   BP: 136/98(107) {116/57(74) - 143/98(107)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  4,010 mL
                                                                  2,701 mL
   PO:
           TF:
                                                                    720 mL
                                                                    218 mL
   IVF:
                                                                    902 mL
                                                                  1,676 mL
   Blood products:
                                                                  1,547 mL
                                                                    167 mL
   Total out:
                                                                  2,990 mL
                                                                  1,935 mL
   Urine:
                                                                  1,790 mL
                                                                    835 mL
   NG:
   Stool:
   1,100 mL
   Drains:
   Balance:
                                                                  1,020 mL
                                                                    766 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General: awake
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), reactive to light
   directly and consensually, Sclera icteric, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  soft, tender diffusely to palpation, + distended with
   ascites, bowel sounds present, unable to assess hepatosplenomegaly
   Ext: Warm, well perfused,+ [**2-1**]+ b/l LE pitting edema to the knees
   Neuro: Alert. Non-verbal. + eye tracking.
   Labs / Radiology
   45 K/uL
   9.8 g/dL
   187 mg/dL
   2.0 mg/dL
   32 mEq/L
   2.9 mEq/L
   67 mg/dL
   109 mEq/L
   153 mEq/L
   29.0 %
   7.3 K/uL
        [image002.jpg]
                             [**2174-3-15**]  07:50 PM
                             [**2174-3-16**]  02:23 AM
                             [**2174-3-16**]  11:08 AM
                             [**2174-3-16**]  05:07 PM
                             [**2174-3-17**]  03:50 AM
                             [**2174-3-17**]  03:21 PM
                             [**2174-3-17**]  09:28 PM
                             [**2174-3-18**]  03:52 AM
                             [**2174-3-18**]  07:45 PM
                             [**2174-3-19**]  04:20 AM
   WBC
   7.7
   8.9
   9.7
   10.9
   7.7
   7.3
   Hct
   22.1
   26.5
   28.0
   23.5
   25.0
   25.0
   26.0
   25.4
   24.5
   29.0
   Plt
   35
   36
   32
   39
   39
   45
   Cr
   3.1
   3.0
   1.8
   2.0
   1.8
   1.2
   1.5
   2.0
   Glucose
   153
   178
   145
   134
   162
   144
   163
   187
   Other labs: PT / PTT / INR:24.8/40.3/2.4, CK / CKMB / Troponin-T:20//,
   ALT / AST:44/78, Alk Phos / T Bili:57/42.3, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:171 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:4.1 g/dL, LDH:205
   IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism here with anemia, jaundice, and altered mental status.
   .
   #  Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Initially was hyponatremic on presentation, now
   persistently hypernatremic (suspect tube feeds)
   - Head CT on [**3-13**] neg for acute intracranial process. Consider repeat
   head CT if suspect cerebral edema in setting of fulminant liver failure
   - Continue lactulose and rifampin (currently stooling well)
   - Treat hypernatremia as below
   .
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/p diagnostic paracentesis -  Second
   tap showed incr WBC with L shift, changed CTX to Zosyn, per informal ID
   recs
   - Cultures NGTD
   - f/u pending cultures
 all NGTD thusfar
   - Will not do therapeutic para per liver recs, since bladder pressure
   is not elevated.
   .
   #  Anemia: likely multifactorial, but improving with FFP. Baseline
   anemia of chronic disease, with low grade GI bleed (stools guaiac pos,
   not grossly bloody), and likely bleeding into the abdomen, causing the
   drop in hematocrit. Unlikely that the patient is hemolyzing, since lab
   data underwhelming - low retic index, direct bilirubinemia and normal
   LDH
   - Recheck retic index, hemolysis labs pending
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, higher if actively bleeding. Will treat with aggressive FFP
   transfusions to curtail bleeding.
   - Appreciate liver recs; EGD if evidence of brisk GIB
   .
   # Cirrhosis / hyperbilirubinemia / [**Month/Year (2) 4182**] [**Month/Year (2) 4244**] thrombosis. Patient had
   mild transaminitis with stable thrombocytopenia, ascites, LE edema,
   hepatosplenomegaly, and elevated INR.  This is likely secondary to
   cirrhosis from alcoholism with embarrassment by chronic acetaminophen
   use.  Currently not drinking for 1 month per patient and husband.
   [**Name (NI) **] [**Name2 (NI) 4244**] thrombosis seems acute due to no collateral flow in the
   [**Name2 (NI) 4182**] circulation on CT. EGD deferred by GI (feels that hct drop is
   more likely due to hemolysis)
   - Follow liver enzymes
 bilirubin stable to decreasing
   - minimize non-essential meds
   - appreciate liver recs: continue lactulose, rifaximin, octreotide and
   midodrine. Pt completed 2 days of albumin infusion and steroids were
   stopped per liver.
   .
   # Acute renal failure. Cr trended up from 0.8 to peak of 3.0. FENa <1%,
   thus pre-renal due to hypovolemia (large stool output) or hepatorenal
   syndrome. Cr improved after albumin infusion, which argues against
   HRS.
   - Trend Cr
   - Renally dose meds.
   - Bladder pressure today
 if elevated, perform paracentesis, if not
   elevated cont albumin
   .
   #  Thrombocytopenia. Improving. Likely secondary to liver failure and
   splenomegaly.  And evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and hyperbilirubinemia.  However, LDH normal,
   arguing against TMA. E. coli O175:H7 neg argues against TTP/HUS.
   - Follow plt count and transfuse if plt < 10 or signs of brisk bleeding
   .
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - Mix meds in D5W
   - Increase free water flushes to 200cc Q4hrs
   .
   #.  LE edema.  Stable. B/l LE pitting edema almost certainly related to
   liver failure, as TTE did not show definitive etiology.
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, TF per nutrition recs, ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: PIV
 need to be changed, PICC (placed [**3-19**])
   .
   Code: DNR/DNI
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: ICU for now; to [**Doctor Last Name 2572**]/[**Doctor Last Name **] when ready
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-18**] 09:48 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-13**] 09:47 AM
   PICC Line - [**2174-3-18**] 05:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2174-03-19 10:56:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2174-3-18**] 05:16 PM
   FFP given and HCT improved to 29 without further transfusion
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-3-17**] 12:52 AM
   Vancomycin - [**2174-3-18**] 08:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-19**] 05:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-19**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 113 (100 - 113) bpm
   BP: 126/63(75) {116/57(74) - 136/98(107)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  4,010 mL
                                                                  4,192 mL
   PO:
           TF:
                                                                    720 mL
                                                                    321 mL
   IVF:
                                                                    902 mL
                                                                  2,804 mL
   Blood products:
                                                                  1,547 mL
                                                                    167 mL
   Total out:
                                                                  2,990 mL
                                                                  2,215 mL
   Urine:
                                                                  1,790 mL
                                                                  1,115 mL
   NG:
   Stool:
   1,100 mL
   Drains:
   Balance:
                                                                  1,020 mL
                                                                  1,977 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   45 K/uL
   187 mg/dL
   2.0 mg/dL
   32 mEq/L
   2.9 mEq/L
   67 mg/dL
   109 mEq/L
   153 mEq/L
   29.0 %
   7.3 K/uL
        [image002.jpg]
                             [**2174-3-15**]  07:50 PM
                             [**2174-3-16**]  02:23 AM
                             [**2174-3-16**]  11:08 AM
                             [**2174-3-16**]  05:07 PM
                             [**2174-3-17**]  03:50 AM
                             [**2174-3-17**]  03:21 PM
                             [**2174-3-17**]  09:28 PM
                             [**2174-3-18**]  03:52 AM
                             [**2174-3-18**]  07:45 PM
                             [**2174-3-19**]  04:20 AM
   WBC
   7.7
   8.9
   9.7
   10.9
   7.7
   7.3
   Hct
   22.1
   26.5
   28.0
   23.5
   25.0
   25.0
   26.0
   25.4
   24.5
   29.0
   Plt
   35
   36
   32
   39
   39
   45
   Cr
   3.1
   3.0
   1.8
   2.0
   1.8
   1.2
   1.5
   2.0
   Glucose
   153
   178
   145
   134
   162
   144
   163
   187
   Other labs: PT / PTT / INR:24.8/40.3/2.4, CK / CKMB / Troponin-T:20//,
   ALT / AST:44/78, Alk Phos / T Bili:57/42.3, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:171 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:4.1 g/dL, LDH:205
   IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: PICC and NGT in good position--she has persistently low lung
   volumes--there is suggestion of increased pulmonary infiltrates
   bilaterally
   Assessment and Plan
   44 yo female with history of cirrhosis and concerning evolution of
   anemia who now has had some improvement in mental status across time
   with treatment for hepatic source of encephaolopathy, stabilization of
   renal function and continued stability of HCT through to today.
   Remaining challenges include persistent hypernatremia.
   1)Altered Mental Status-Improved with treatment of hepatic
   encephalopathy
   -Continue lactulose/Rifaxamin
   -Follow exam
   -OOB to chair today
   -SBP Rx with Vanco Zosyn for possible resistant organism evolving on
   CTX
   -Hypernatremia to be Rx with free water bolus
   2)Renal Failure- Likely  HEPATORENAL SYNDROME contribution but very
   volume responsive.  Concerning rise in Cr is seen.
   -Will check bladder pressure
   -Will tap 1 liter for Pressure >25
   -Continue to use albumin as needed
   -Continue Octreotide/Midodrine
   3)Anemia--Persistent and actually improving as coagulopathy has been
   addressed and is likely related to what may well be decreased rate of
   blood loss in the setting of poor marrow response as evidenced by
   inappropriately low retic count.
   -Continue HCT [**Hospital1 **]
   -Will tolerate INR elevation if not actively bleeding
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-18**] 09:48 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   Prophylaxis:
   DVT: Boots, OOB to chair
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 35

2174-03-20 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - HCT dropped to 19 - transfused 2U FFP, 2U PRBCs, HCT to 20.0, 2
   additional units PRBCs started
   - Hypernatremia and creat improving
   - Continued albumin
   - Bladder pressure not elevated in afternoon - measured 16 - but
   remeasured at 0400 is 33
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-18**] 08:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-20**] 05:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-20**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 113 (106 - 117) bpm
   BP: 134/76(88) {107/50(64) - 140/82(95)} mmHg
   RR: 13 (12 - 23) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    Bladder pressure: 30 (16 - 30) mmHg
   Total In:
                                                                  9,340 mL
                                                                  1,733 mL
   PO:
   TF:
                                                                    722 mL
                                                                    216 mL
   IVF:
                                                                  5,036 mL
                                                                    313 mL
   Blood products:
                                                                  1,473 mL
                                                                    945 mL
   Total out:
                                                                  3,455 mL
                                                                  1,735 mL
   Urine:
                                                                  1,805 mL
                                                                    535 mL
   NG:
   Stool:
                                                                  1,650 mL
                                                                  1,200 mL
   Drains:
   Balance:
                                                                  5,885 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   General: awake
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), reactive to light
   directly and consensually, Sclera icteric, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  tense, tender diffusely to palpation, + distended with
   ascites, bowel sounds present, unable to assess hepatosplenomegaly
   Ext: Warm, well perfused,+ [**2-1**]+ b/l LE pitting edema to the knees
   Neuro: Alert. Minimal speech. + eye tracking.
   Labs / Radiology
   53 K/uL
   9.8 g/dL
   142 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   66 mg/dL
   105 mEq/L
   147 mEq/L
   20.0 %
   10.4 K/uL
        [image002.jpg]
                             [**2174-3-16**]  05:07 PM
                             [**2174-3-17**]  03:50 AM
                             [**2174-3-17**]  03:21 PM
                             [**2174-3-17**]  09:28 PM
                             [**2174-3-18**]  03:52 AM
                             [**2174-3-18**]  07:45 PM
                             [**2174-3-19**]  04:20 AM
                             [**2174-3-19**]  04:08 PM
                             [**2174-3-19**]  05:49 PM
                             [**2174-3-20**]  02:22 AM
   WBC
   9.7
   10.9
   7.7
   7.3
   9.4
   9.6
   10.4
   Hct
   23.5
   25.0
   25.0
   26.0
   25.4
   24.5
   29.0
   19.0
   20.0
   20.0
   Plt
   32
   39
   39
   45
   53
   55
   53
   Cr
   1.8
   2.0
   1.8
   1.2
   1.5
   2.0
   1.0
   1.0
   1.0
   Glucose
   145
   134
   162
   144
   163
   187
   182
   171
   142
   Other labs: PT / PTT / INR:24.8/41.4/2.4, ALT / AST:44/77, Alk Phos / T
   Bili:59/45.3, Albumin:4.4 g/dL, LDH:198 IU/L, Ca++:10.3 mg/dL, Mg++:2.0
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism here with anemia, jaundice, and altered mental status.
   .
   #  Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Initially was hyponatremic on presentation, now
   persistently hypernatremic (suspect tube feeds)
   - Head CT on [**3-13**] neg for acute intracranial process. Consider repeat
   head CT if suspect cerebral edema in setting of fulminant liver failure
   - Continue lactulose and rifaxamin (currently stooling well)
   - Treat hypernatremia as below
   .
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/p diagnostic paracentesis -  Second
   tap showed incr WBC with L shift, changed CTX to Zosyn on [**3-15**], per
   informal ID recs.  Bladder pressure elevated on morning of [**3-20**],
   patient appears increasingly uncomfortable and having some dyspnea as
   well so therapeutic paracentesis planned.
   - Cultures NGTD
   - f/u pending cultures
 all NGTD thusfar
   .
   #  Anemia: likely multifactorial, but improving with FFP. Baseline
   anemia of chronic disease, with low grade GI bleed (stools guaiac pos,
   not grossly bloody), and likely bleeding into the abdomen, causing the
   drop in hematocrit. Unlikely that the patient is hemolyzing, since lab
   data underwhelming - low retic index, direct bilirubinemia and normal
   LDH.  Patient dropped hct again on [**3-19**] and received 4 more units of
   PRBCs.
   - Recheck retic index, hemolysis labs pending
 no evidence of DIC or
   hemolysis
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, higher if actively bleeding. Will treat with aggressive FFP
   transfusions to curtail bleeding.
   - Appreciate liver recs; EGD if evidence of brisk GIB
   .
   # Cirrhosis / hyperbilirubinemia / [**Month/Year (2) 4182**] [**Month/Year (2) 4244**] thrombosis. Patient had
   mild transaminitis with stable thrombocytopenia, ascites, LE edema,
   hepatosplenomegaly, and elevated INR.  This is likely secondary to
   cirrhosis from alcoholism with embarrassment by chronic acetaminophen
   use.  Currently not drinking for 1 month per patient and husband.
   [**Name (NI) **] [**Name2 (NI) 4244**] thrombosis seems acute due to no collateral flow in the
   [**Name2 (NI) 4182**] circulation on CT. EGD deferred by GI (feels that hct drop is
   more likely due to hemolysis)
   - Follow liver enzymes
 bilirubin stable to decreasing
   - minimize non-essential meds
   - appreciate liver recs: continue lactulose, rifaximin, octreotide and
   midodrine. Pt completed 2 days of albumin infusion and steroids were
   stopped per hepatology.
   .
   # Acute renal failure. Cr trended up from 0.8 to peak of 3.0. FENa <1%,
   thus pre-renal due to hypovolemia (large stool output) or hepatorenal
   syndrome. Cr improved after albumin infusion, which argues against
   HRS.
   - Trend Cr
   - Renally dose meds.
   - Bladder pressure today
 if elevated, perform paracentesis, if not
   elevated cont albumin
   .
   #  Thrombocytopenia. Improving. Likely secondary to liver failure and
   splenomegaly.  And evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and hyperbilirubinemia.  However, LDH normal,
   arguing against TMA. E. coli O175:H7 neg argues against TTP/HUS.
   - Follow plt count and transfuse if plt < 10 or signs of brisk bleeding
   .
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - Mix meds in D5W
   - Increase free water flushes to 250cc Q4hrs
   .
   #.  LE edema.  Stable. B/l LE pitting edema almost certainly related to
   liver failure, as TTE did not show definitive etiology.
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, TF per nutrition recs, ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: PIV, PICC (placed [**3-19**])
   .
   Code: DNR/DNI
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: ICU for now; to [**Doctor Last Name 2572**]/[**Doctor Last Name **] when ready
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-20**] 03:43 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2174-03-20 08:37:00 Physician Attending Progress Note
Chief Complaint: ALtered Mental Status
   Anemia--Secondary to Blood Loss
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Pt with 4 units transfused for decreased HCT
   _Bladder pressure increased to 33 through this morning
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-18**] 08:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-20**] 05:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2174-3-20**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 111 (106 - 117) bpm
   BP: 132/75(87) {107/50(64) - 140/82(95)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   Bladder pressure: 30 (16 - 30) mmHg
   Total In:
                                                                  9,340 mL
                                                                  1,779 mL
   PO:
   TF:
                                                                    722 mL
                                                                    250 mL
   IVF:
                                                                  5,036 mL
                                                                    324 mL
   Blood products:
                                                                  1,473 mL
                                                                    945 mL
   Total out:
                                                                  3,455 mL
                                                                  1,735 mL
   Urine:
                                                                  1,805 mL
                                                                    535 mL
   NG:
   Stool:
                                                                  1,650 mL
                                                                  1,200 mL
   Drains:
   Balance:
                                                                  5,885 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   53 K/uL
   142 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   66 mg/dL
   105 mEq/L
   147 mEq/L
   20.0 %
   10.4 K/uL
        [image002.jpg]
                             [**2174-3-16**]  05:07 PM
                             [**2174-3-17**]  03:50 AM
                             [**2174-3-17**]  03:21 PM
                             [**2174-3-17**]  09:28 PM
                             [**2174-3-18**]  03:52 AM
                             [**2174-3-18**]  07:45 PM
                             [**2174-3-19**]  04:20 AM
                             [**2174-3-19**]  04:08 PM
                             [**2174-3-19**]  05:49 PM
                             [**2174-3-20**]  02:22 AM
   WBC
   9.7
   10.9
   7.7
   7.3
   9.4
   9.6
   10.4
   Hct
   23.5
   25.0
   25.0
   26.0
   25.4
   24.5
   29.0
   19.0
   20.0
   20.0
   Plt
   32
   39
   39
   45
   53
   55
   53
   Cr
   1.8
   2.0
   1.8
   1.2
   1.5
   2.0
   1.0
   1.0
   1.0
   Glucose
   145
   134
   162
   144
   163
   187
   182
   171
   142
   Other labs: PT / PTT / INR:24.8/41.4/2.4, CK / CKMB / Troponin-T:20//,
   ALT / AST:44/77, Alk Phos / T Bili:59/45.3, Amylase / Lipase:11/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:171 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:4.4 g/dL, LDH:198
   IU/L, Ca++:10.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: None New
Bedside Ultrasound with large volume of fluid which
   appears to be free flowing and with somewhat increased echogenicity
   seen in abdomen.  Liver and bowel clearly visualized
   Microbiology: No new positive results
   Assessment and Plan
   44 yo female with cirrhosis now presenting with hepatic failure in the
   setting of increased Tylenol intake.
   1)Altered Mental Status-
   -Continue Rifax/Lactulose
   -Follow Exam
   2)Ascites-This has shown significant increase in abdominal distention
   with significant concern for continued bleeding into peritoneal space.
   This is in evidence by continued need for transfusion without evidence
   of hemolysis or alternative source of blood loss.  Significant efforts
   have been made to normalize INR but has not been able to be
   accomplished despite large volumes of FFP.  On ultrasound there is
   clear evidence of increased fluid noted and patient has significant
   dyspnea all combined with increases in bladder pressure raise the issue
   of therapeutic paracentesis.
   -Will tap for 2-3 liters today
   -Will provide albumin peri-procedure to assure adequate volume
   -Indication is related to respiratory distress
   3) ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)-
   -Concerning for possible blood loss into peritoneum
   -HCT q 6 hours today
   4)SBP-
   -Continue vanco/zosyn
   5)Acute Renal Failure--HEPATORENAL SYNDROME and PRE-RENAL CAUSES
   -Creatinine normalized to 1.0 with volume replacement
   -Will continue with midodrine/octreotide to avoid worsening related to
   cirrhosis
   Additional issues to be addressed as defined in the housestaff note of
   this date
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-20**] 03:43 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2174-03-21 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2174-3-20**] 11:40 AM
   - Repeat bladder pressure 29 pre paracentesis, 14 post paracentesis
   - Therapeutic paracentesis performed, 2.5L grossly bloody fluid, hct 8
   - Liver recs - no albumin, cont. FFP, CT abd, c/s surgery
   - Surgery - not a surgical candidate, would likely die, consider
   platelets & FFP
   - CT abd - dense material layering in post. peritoneal cavity; R flank
   1 cm high attenuation spot on parietal peritoneum ?bleeding vessel from
   prior para?  No active bleeding seen, but no IV contrast given due to
   recent renal failure
   - hct down: 1 unit PRBCs, 2 units FFP, hct did not bump so ordered 1
   unit PRBCs, 1 pk plt
   - free water flushes increased to 300 cc Q4H
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-18**] 08:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-20**] 08:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-21**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.5
   HR: 110 (101 - 116) bpm
   BP: 122/66(79) {99/54(66) - 152/88(94)} mmHg
   RR: 21 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    Bladder pressure: 14 (14 - 29) mmHg
   Total In:
                                                                  6,705 mL
                                                                  1,795 mL
   PO:
   TF:
                                                                    721 mL
                                                                    217 mL
   IVF:
                                                                    823 mL
                                                                    272 mL
   Blood products:
                                                                  3,071 mL
                                                                    645 mL
   Total out:
                                                                  6,285 mL
                                                                    710 mL
   Urine:
                                                                  2,085 mL
                                                                    710 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
                                                                  3,000 mL
   Balance:
                                                                    420 mL
                                                                  1,085 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General: awake, oriented to self &
hospital
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), diaphoretic,
   reactive to light directly and consensually, Sclera icteric, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  tense, non-tender to palpation, + distended with ascites,
   bowel sounds present, unable to assess hepatosplenomegaly
   Ext: Warm, well perfused,+ [**2-1**]+ b/l LE pitting edema to the knees
   Neuro: Alert. Minimal speech. + eye tracking.
   Labs / Radiology
   51 K/uL
   9.8 g/dL
   153 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   65 mg/dL
   107 mEq/L
   149 mEq/L
   22.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2174-3-18**]  03:52 AM
                             [**2174-3-18**]  07:45 PM
                             [**2174-3-19**]  04:20 AM
                             [**2174-3-19**]  04:08 PM
                             [**2174-3-19**]  05:49 PM
                             [**2174-3-20**]  02:22 AM
                             [**2174-3-20**]  07:55 AM
                             [**2174-3-20**]  02:55 PM
                             [**2174-3-21**]  01:30 AM
                             [**2174-3-21**]  05:06 AM
   WBC
   10.9
   7.7
   7.3
   9.4
   9.6
   10.4
   11.9
   Hct
   25.4
   24.5
   29.0
   19.0
   20.0
   20.0
   24.0
   22.0
   22.5
   Plt
   39
   39
   45
   53
   55
   53
   51
   Cr
   1.2
   1.5
   2.0
   1.0
   1.0
   1.0
   0.5
   0.8
   Glucose
   144
   163
   187
   182
   171
   142
   143
   153
   Other labs: PT / PTT / INR:20.9/41.4/2.0, ALT / AST:44/77, Alk Phos / T
   Bili:59/45.3, Amylase / Lipase:31/33, Fibrinogen:171 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:4.4 g/dL, LDH:198 IU/L, Ca++:10.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism and acetaminophen use, here with anemia, jaundice, and
   altered mental status.
   .
   # Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Initially was hyponatremic on presentation, now
   persistently hypernatremic.
   - Head CT on [**3-13**] neg for acute intracranial process. Consider repeat
   head CT if suspect cerebral edema in setting of fulminant liver failure
   - Continue lactulose and rifaxamin (currently stooling well)
   - Treat hypernatremia as below
   .
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/P diagnostic paracentesis - Second tap
   showed incr WBC with L shift, changed CTX to Zosyn on [**3-15**], per
   informal ID recs.  Bladder pressure elevated on morning of [**3-20**], pt
   increasingly uncomfortable and dyspneic.  Therapeutic para done [**2-20**] to
   remove 2.5L grossly bloody fluid.
   - Cultures NGTD. F/U pending Cx.
   .
   # Anemia: Likely multifactorial. Baseline anemia of chronic disease,
   low grade GI bleed (stools guaiac pos, not grossly bloody), and
   evidence of intraperitoneal bleeding on paracentesis, CT scan. Unlikely
   that the patient has DIC/hemolysis, since lab data underwhelming - low
   retic index, direct bilirubinemia, normal LDH, normal haptoglobin.
   Patient dropped hct again on [**3-19**] and received 4 more units of PRBCs.
   Per surgery, not operative candidate. Received 2U PRBCs, 4U FFP, 1plt
   yesterday/overnight.
   - q6h Hct/INR check.
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, will titrate transfusions if responding appropriately to blood.
   Will also treat with aggressive FFP transfusions to curtail bleeding.
   - Appreciate liver recs; EGD if evidence of brisk GIB
   - F/U peritoneal amylase level for pancreatitis /intestinal
   perforation.
   - Will re-discuss with surgery as patient continues to bleed despite
   aggressive medical tx x 3days.
   .
   # Cirrhosis / hyperbilirubinemia / [**Month/Year (2) 4182**] [**Month/Year (2) 4244**] thrombosis. Patient w/
   mild transaminitis (stable) with stable thrombocytopenia, ascites, LE
   edema, hepatosplenomegaly, and elevated INR.  This is likely secondary
   to cirrhosis from alcoholism with embarrassment by chronic
   acetaminophen use.  Currently not drinking for 1 month per patient and
   husband. [**Name (NI) **] [**Name2 (NI) 4244**] thrombosis seems acute due to no collateral flow
   in the [**Name2 (NI) 4182**] circulation on CT. EGD deferred by GI (feels anemia more
   likely due to hemolysis)
   - Follow liver enzymes
 bilirubin stable to decreasing
   - minimize non-essential meds
   - appreciate liver recs: continue lactulose, rifaximin, octreotide and
   midodrine. Pt completed 2 days of albumin infusion and steroids were
   stopped per hepatology.
   .
   # Acute renal failure. Cr trended up from 0.8 to peak of 3.0. FENa <1%,
   thus pre-renal due to hypovolemia (large stool output) or hepatorenal
   syndrome. Cr improved after albumin infusion, which argues against
   HRS.
   - Trend Cr
   - Renally dose meds.
   - Holding albumin per hepatology.
   .
   #  Thrombocytopenia. Improving. Likely secondary to liver failure and
   splenomegaly.  Evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and direct hyperbilirubinemia.  However, LDH
   normal, arguing against TMA. E. coli O175:H7 neg argues against
   TTP/HUS. Received 1U platelets overnight.
   - Follow plt count and transfuse if plt < 10 or as needed to control
   abdominal bleeding
   .
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - Mix meds in D5W
   - Increase free water flushes to 300cc Q4hrs.
   - Recheck Na this afternoon and consider starting D5W if Na not fully
   corrected by then.
   .
   #.  LE edema.  Stable. B/l LE pitting edema almost certainly related to
   liver failure, as TTE did not show definitive etiology.
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, TF per nutrition recs, ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: PIV, PICC (placed [**3-19**])
   .
   Code: DNR/DNI
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: ICU for now; to [**Doctor Last Name 2572**]/[**Doctor Last Name **] when ready
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-20**] 03:43 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   18 Gauge - [**2174-3-20**] 08:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4782**], MSIV

2174-03-21 11:08:00 Physician Attending Progress Note
Chief Complaint: Hepatic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2174-3-20**] 11:40 AM--Bloody, HCT=8
   -Sugery consulted and no surgical intervention offered at this time
   -Hepatology continued to follow
   -CT ABD--concering for parietal vessel source of bleeding.
   -Bladder pressure decrease to 16 following procedure
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-18**] 08:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-21**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Flowsheet Data as of  [**2174-3-21**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 107 (101 - 116) bpm
   BP: 131/73(84) {99/53(66) - 152/88(94)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  6,708 mL
                                                                  2,986 mL
   PO:
   TF:
                                                                    723 mL
                                                                    327 mL
   IVF:
                                                                    823 mL
                                                                    309 mL
   Blood products:
                                                                  3,071 mL
                                                                  1,225 mL
   Total out:
                                                                  6,285 mL
                                                                  1,190 mL
   Urine:
                                                                  2,085 mL
                                                                  1,190 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
                                                                  3,000 mL
   Balance:
                                                                    423 mL
                                                                  1,796 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   51 K/uL
   153 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   65 mg/dL
   107 mEq/L
   149 mEq/L
   22.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2174-3-18**]  03:52 AM
                             [**2174-3-18**]  07:45 PM
                             [**2174-3-19**]  04:20 AM
                             [**2174-3-19**]  04:08 PM
                             [**2174-3-19**]  05:49 PM
                             [**2174-3-20**]  02:22 AM
                             [**2174-3-20**]  07:55 AM
                             [**2174-3-20**]  02:55 PM
                             [**2174-3-21**]  01:30 AM
                             [**2174-3-21**]  05:06 AM
   WBC
   10.9
   7.7
   7.3
   9.4
   9.6
   10.4
   11.9
   Hct
   25.4
   24.5
   29.0
   19.0
   20.0
   20.0
   24.0
   22.0
   22.5
   Plt
   39
   39
   45
   53
   55
   53
   51
   Cr
   1.2
   1.5
   2.0
   1.0
   1.0
   1.0
   0.5
   0.8
   Glucose
   144
   163
   187
   182
   171
   142
   143
   153
   Other labs: PT / PTT / INR:20.9/41.4/2.0, CK / CKMB / Troponin-T:20//,
   ALT / AST:44/77, Alk Phos / T Bili:59/45.3, Amylase / Lipase:31/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:171 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:4.4 g/dL, LDH:198
   IU/L, Ca++:10.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   44 yo female with history of cirrhosis and now admit with decompensated
   liver failure and now with transient acute renal failure and with some
   rapid improvement with volume support and continued Rx for HRS possible
   contribution.  The current and persistent active issue is really around
   persistent anemia secondary to blood loss with Paracentesis and CT
   consistent wtih intra-peritoneal bleeding with suggestion or parietal
   surface vessel as source of continued blood loss.  This blood loss is
   in the setting of coagulopathy which is related to underlying liver
   disease.  We have attempted to correct coagulopathy with FFP but have
   been unable to complete.  It is certainly possible that hemo-peritoneum
   is related to previous procedure with paracentesis related injury to
   parietal peritoneum leading to bleed. She has had continued 3 units/day
   transufion requirement.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)-
   -Will discuss with surgery and possible interventions to stabilize
   bleeding
   -FFP attempted with minimal change in bleeding rate
   -Will look to peritoneal amylase today
   -Given need for exploratory laparotomy to identify source of bleed
risk
   of surgery is certainly excessive at this time given risk for recurrent
   or persistent bleeding following intervention.
   -Will need to work to normalize coags
   2)Cirrhosis-
   -Continue to Rx for hepatic encephaolopathy with Lactulose/Rifax
   -Correct coags if possible given ongoing bleeding
   -Substantial improvement in respiratory status with paracentesis.
   3)Acute Renal Failure-
   -Continue with adequate volume, check of bladder pressure qd
   -Renal Dose all meds
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-21**] 09:34 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   18 Gauge - [**2174-3-20**] 08:56 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2174-03-22 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2174-3-21**] 06:30 PM
   - Again discussed surgical options w/ Gen [**Doctor First Name 3**] Attg (said no to OR) and
   Transplant Surgery (also said not a candidiate)
   - Hct continuing to fall despite aggressive transfusion of blood
   products. Received 2 units of pRBC and 12 units of FFP.
   - Per Liver, no role for other blood products apart from FFP.
   - Had self-limited runs of V-tach -> thought to be due to PICC
   position, pulled back. Again had 12 beats of V-tach followed by 35-beat
   run of sinus tach at 2 am. Pt c/o feeling "hot." Repleted K.
   - Family meeting; continue DNR/DNI, transfusions. Husband not ready
   yet.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-21**] 06:57 PM
   Vancomycin - [**2174-3-21**] 08:03 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-21**] 08:31 PM
   Lansoprazole (Prevacid) - [**2174-3-21**] 08:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-22**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.1
   HR: 100 (86 - 110) bpm
   BP: 130/74(87) {108/55(77) - 145/90(96)} mmHg
   RR: 28 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  8,114 mL
                                                                    675 mL
   PO:
             TF:
                                                                    722 mL
                                                                    225 mL
   IVF:
                                                                  1,130 mL
                                                                    150 mL
   Blood products:
                                                                  3,817 mL
   Total out:
                                                                  2,275 mL
                                                                  1,220 mL
   Urine:
                                                                  2,275 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,839 mL
                                                                   -545 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General: awake, oriented to self &
hospital
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), diaphoretic,
   reactive to light directly and consensually, Sclera icteric, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen:  tense, non-tender to palpation, + distended with ascites,
   bowel sounds present, unable to assess hepatosplenomegaly
   Ext: Warm, well perfused,+ [**2-1**]+ b/l LE pitting edema to the knees
   Neuro: Alert. Minimal speech. + eye tracking.
   Labs / Radiology
   62 K/uL
   8.7 g/dL
   130 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.5 mEq/L
   60 mg/dL
   108 mEq/L
   152 mEq/L
   25.5 %
   10.6 K/uL
        [image002.jpg]
                             [**2174-3-20**]  02:22 AM
                             [**2174-3-20**]  07:55 AM
                             [**2174-3-20**]  02:55 PM
                             [**2174-3-21**]  01:30 AM
                             [**2174-3-21**]  05:06 AM
                             [**2174-3-21**]  09:56 AM
                             [**2174-3-21**]  02:30 PM
                             [**2174-3-21**]  06:04 PM
                             [**2174-3-21**]  11:22 PM
                             [**2174-3-22**]  05:27 AM
   WBC
   10.4
   11.9
   9.4
   10.2
   10.6
   Hct
   20.0
   24.0
   22.0
   22.5
   25.0
   23.0
   24.0
   25.2
   25.5
   Plt
   53
   51
   60
   64
   64
   62
   Cr
   1.0
   0.5
   0.8
   0.9
   Glucose
   142
   143
   153
   213
   130
   Other labs: PT / PTT / INR:19.8/37.2/1.8, CK / CKMB / Troponin-T:20//,
   ALT / AST:49/82, Alk Phos / T Bili:75/49.4, Amylase / Lipase:31/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:228 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:4.4 g/dL, LDH:252
   IU/L, Ca++:10.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism and acetaminophen use, here with anemia, jaundice, and
   altered mental status.
   .
   # Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Initially was hyponatremic on presentation, now
   persistently hypernatremic.
   - Head CT on [**3-13**] neg for acute intracranial process. Consider repeat
   head CT if suspect cerebral edema in setting of fulminant liver failure
   - Continue lactulose and rifaxamin (currently stooling well)
   - Treat hypernatremia as below
   .
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/P diagnostic paracentesis - Second tap
   showed incr WBC with L shift, changed CTX to Zosyn on [**3-15**], per
   informal ID recs.  Bladder pressure elevated on morning of [**3-20**], pt
   increasingly uncomfortable and dyspneic.  Therapeutic para done [**2-20**] to
   remove 2.5L grossly bloody fluid.
   - Cultures NGTD. F/U pending Cx.
   .
   # Anemia: Likely multifactorial. Baseline anemia of chronic disease,
   low grade GI bleed (stools guaiac pos, not grossly bloody), and
   evidence of intraperitoneal bleeding on paracentesis, CT scan. Unlikely
   that the patient has DIC/hemolysis, since lab data underwhelming - low
   retic index, direct bilirubinemia, normal LDH, normal haptoglobin.
   Patient dropped hct again on [**3-19**] and received 4 more units of PRBCs.
   Per surgery, not operative candidate. Received 2U PRBCs, 4U FFP, 1plt
   yesterday/overnight.
   - q6h Hct/INR check.
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, will titrate transfusions if responding appropriately to blood.
   Will also treat with aggressive FFP transfusions to curtail bleeding.
   - Appreciate liver recs; EGD if evidence of brisk GIB
   - F/U peritoneal amylase level for pancreatitis /intestinal
   perforation.
   - Will re-discuss with surgery as patient continues to bleed despite
   aggressive medical tx x 3days.
   .
   # Cirrhosis / hyperbilirubinemia / [**Month/Year (2) 4182**] [**Month/Year (2) 4244**] thrombosis. Patient w/
   mild transaminitis (stable) with stable thrombocytopenia, ascites, LE
   edema, hepatosplenomegaly, and elevated INR.  This is likely secondary
   to cirrhosis from alcoholism with embarrassment by chronic
   acetaminophen use.  Currently not drinking for 1 month per patient and
   husband. [**Name (NI) **] [**Name2 (NI) 4244**] thrombosis seems acute due to no collateral flow
   in the [**Name2 (NI) 4182**] circulation on CT. EGD deferred by GI (feels anemia more
   likely due to hemolysis)
   - Follow liver enzymes
 bilirubin stable to decreasing
   - minimize non-essential meds
   - appreciate liver recs: continue lactulose, rifaximin, octreotide and
   midodrine. Pt completed 2 days of albumin infusion and steroids were
   stopped per hepatology.
   .
   # Acute renal failure. Cr trended up from 0.8 to peak of 3.0. FENa <1%,
   thus pre-renal due to hypovolemia (large stool output) or hepatorenal
   syndrome. Cr improved after albumin infusion, which argues against
   HRS.
   - Trend Cr
   - Renally dose meds.
   - Holding albumin per hepatology.
   .
   #  Thrombocytopenia. Improving. Likely secondary to liver failure and
   splenomegaly.  Evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and direct hyperbilirubinemia.  However, LDH
   normal, arguing against TMA. E. coli O175:H7 neg argues against
   TTP/HUS. Received 1U platelets overnight.
   - Follow plt count and transfuse if plt < 10 or as needed to control
   abdominal bleeding
   .
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - Mix meds in D5W
   - Increase free water flushes to 300cc Q4hrs.
   - Recheck Na this afternoon and consider starting D5W if Na not fully
   corrected by then.
   .
   #.  LE edema.  Stable. B/l LE pitting edema almost certainly related to
   liver failure, as TTE did not show definitive etiology.
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, TF per nutrition recs, ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: PIV, PICC (placed [**3-19**])
   .
   Code: DNR/DNI
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: ICU for now; to [**Doctor Last Name 2572**]/[**Doctor Last Name **] when ready
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-21**] 09:34 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   18 Gauge - [**2174-3-20**] 08:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2174-03-22 11:21:00 Physician Attending Progress Note
Chief Complaint: Encephalopathy
   Anemia-Secondary To Blood Loss
   Cirrhosis
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2174-3-21**] 06:30 PM
   -No surgery offered to aid in stabilization of bleeding given risk of
   procedure
   -Past 24 hours--3 units PRBC, 12 Units FFP in past 24 hours
   -Liver--FFP suggested
   -V-tach seen across the night
   -Bladder pressure=21 this morning
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-21**] 06:57 PM
   Vancomycin - [**2174-3-22**] 09:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-21**] 08:31 PM
   Pantoprazole (Protonix) - [**2174-3-22**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2174-3-22**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 104 (86 - 109) bpm
   BP: 135/75(87) {108/62(79) - 145/98(108)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   Bladder pressure: 21 (21 - 21) mmHg
   Total In:
                                                                  8,114 mL
                                                                  1,845 mL
   PO:
   TF:
                                                                    722 mL
                                                                    333 mL
   IVF:
                                                                  1,130 mL
                                                                    432 mL
   Blood products:
                                                                  3,817 mL
   Total out:
                                                                  2,275 mL
                                                                  1,485 mL
   Urine:
                                                                  2,275 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,839 mL
                                                                    360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   62 K/uL
   130 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.5 mEq/L
   60 mg/dL
   108 mEq/L
   152 mEq/L
   25.5 %
   10.6 K/uL
        [image002.jpg]
                             [**2174-3-20**]  02:22 AM
                             [**2174-3-20**]  07:55 AM
                             [**2174-3-20**]  02:55 PM
                             [**2174-3-21**]  01:30 AM
                             [**2174-3-21**]  05:06 AM
                             [**2174-3-21**]  09:56 AM
                             [**2174-3-21**]  02:30 PM
                             [**2174-3-21**]  06:04 PM
                             [**2174-3-21**]  11:22 PM
                             [**2174-3-22**]  05:27 AM
   WBC
   10.4
   11.9
   9.4
   10.2
   10.6
   Hct
   20.0
   24.0
   22.0
   22.5
   25.0
   23.0
   24.0
   25.2
   25.5
   Plt
   53
   51
   60
   64
   64
   62
   Cr
   1.0
   0.5
   0.8
   0.9
   Glucose
   142
   143
   153
   213
   130
   Other labs: PT / PTT / INR:19.8/37.2/1.8, CK / CKMB / Troponin-T:20//,
   ALT / AST:49/82, Alk Phos / T Bili:75/49.4, Amylase / Lipase:31/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:228 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:4.4 g/dL, LDH:252
   IU/L, Ca++:10.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   44 yo female with history of cirrhosis and now with decompensated liver
   failure and with encephalopathy that has improved with supportive Rx.
   She had transient worsening of renal failure which has shown some
   improvement in the setting of increased volume and support for
   component of HRS.  She has had persistence of anemia and medical Rx
   only available given signficant risk for surgery.  Last night and
   across yesterday she has evolved an increasing frequency of wide
   complex tachycardia which have been self limited but with duration of
   up to 35 beats.
   1) ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE,
   BLEEDING)--Clearly most likely source is intraperitoneal.  Surgery
   consulted and aid from Hepatology team obtained
   -FFP to work to normalize INR
   -PRBC as needed for trend down
   -Will continue to look for alternative sources
   2)Cirrhosis-
   Encephaoloapthy-Lactulose, Rifaxamin
   SBP-Vanco/ZOsyn started
   Hepato-Renal Syndrome-Support with Octreotide/Midodrine
   Ascites-Intermittent impairment in ventilatory function but responsive
   to tap, bleed to be Rx
d with FFP and PRBC as needed
goal INR is <1.5
   if able to be achieved
   3)Acute Renal Failure-
   -Improved and will continue to support with volume and control of SVR
   4)Tachycardia-Appears to be dominant supraventricular source of
   tachycardia
   -Will continue to assure lytes normalized
Mg and K+ today
   -Will continue with telemetry
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-21**] 09:34 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   18 Gauge - [**2174-3-20**] 08:56 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Plans discussed with family in detail
   yesterday
do not see a trend to clinical improvement or return of liver
   function to the point of allowing independent function but would defer
   to hepatology on definitive statements on prognosis.  Per
   HCP
husband
will continue to provide supportive care with most active
   acute issues are blood loss anemia and arrhythmia.  Will have to
   entertain possible role of hospice support if acute bleeding resolves
   and no significant recovery of hepatic function is expected but will
   have to continue full care at this time with patient DNR/DNI
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35

2174-03-23 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fam Mtg w/ Liver Team. More optimistic, estimating 20-30% chance of
   leaving hospital. Code Status changed to "Full."
   - Liver recs: FFP through AM [**3-23**] then OK to stop, cont TF
   - Transplant [**Doctor First Name 3**] recommended Factor VII. As Hct stabilized, opted to
   continue with FFP for now.
   - Speech/swallow eval ordered as patient asking for fluids
   - Bladder Pressure: 21 in AM, 22 in PM
   - Peritoneal Amylase = 13
   - Urine Cx: Yeast>100K -> Foley changed
   - received 10 u FFP, no pRBCs
   This morning, pt
s O2 requirement increased, now on 70% face tent to
   maintain sats in mid-90s. Previously was on 2-3L NC. Also there was a
   report of desat to 70s while being turned overnight per nurses.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-22**] 09:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-22**] 05:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-22**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-23**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 106 (99 - 113) bpm
   BP: 131/73(87) {118/61(78) - 160/100(113)} mmHg
   RR: 15 (14 - 39) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    Bladder pressure: 22 (21 - 22) mmHg
   Total In:
                                                                  5,694 mL
                                                                  2,208 mL
   PO:
   TF:
                                                                    720 mL
                                                                    212 mL
   IVF:
                                                                  1,429 mL
                                                                    142 mL
   Blood products:
                                                                  1,125 mL
                                                                  1,044 mL
   Total out:
                                                                  2,191 mL
                                                                  1,185 mL
   Urine:
                                                                  1,191 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,503 mL
                                                                  1,023 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General: awake, oriented to self &
hospital
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), diaphoretic,
   reactive to light directly and consensually, Sclera icteric, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen: tense in the upper half of abdomen only (soft in the lower
   abdomen). Unable to assess tenderness as pt is moaning at baseline and
   will not answer whether she is experiencing pain. Decreased bowel
   sounds. Tympanic to percussion centrally, dull otherwise.
   Ext: Warm, well perfused,+ [**2-1**]+ b/l LE pitting edema to the knees
   Neuro: Alert. Not answering questions consistently.
   Labs / Radiology
   52 K/uL
   9.0 g/dL
   148 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   64 mg/dL
   107 mEq/L
   150 mEq/L
   23.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2174-3-21**]  01:30 AM
                             [**2174-3-21**]  05:06 AM
                             [**2174-3-21**]  09:56 AM
                             [**2174-3-21**]  02:30 PM
                             [**2174-3-21**]  06:04 PM
                             [**2174-3-21**]  11:22 PM
                             [**2174-3-22**]  05:27 AM
                             [**2174-3-22**]  11:28 AM
                             [**2174-3-22**]  05:19 PM
                             [**2174-3-23**]  12:28 AM
   WBC
   9.4
   10.2
   10.6
   11.7
   Hct
   22.5
   25.0
   23.0
   24.0
   25.2
   25.5
   25.7
   24.5
   23.7
   Plt
   60
   64
   64
   62
   52
   Cr
   0.8
   0.9
   0.5
   0.6
   Glucose
   153
   213
   130
   140
   148
   Other labs: PT / PTT / INR:21.9/38.5/2.1, CK / CKMB / Troponin-T:20//,
   ALT / AST:53/91, Alk Phos / T Bili:91/48.0, Amylase / Lipase:31/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:228 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:4.4 g/dL, LDH:290
   IU/L, Ca++:10.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism and acetaminophen use, here with anemia, jaundice, and
   altered mental status. Has increasing O2 requirement today and
   abdomenal exam not fully consistent with simple ascites.
   .
   # Hypoxia: Likely multifactorial. Has been receiving increasing doses
   of morphine for abdominal pain, which could contribute to decreased
   respiratory drive. Decreased chest wall compliance due to large
   ascites. Volume overload (LOS 18 L positive) as has been receiving
   large amounts of blood products.
   - CXR to assess for pulm edema/PNA/other processes
   - Check ABG
   - onsider Lasix if + pulm edema due to volume overload
   - Keep O2 sat >92%
   - minimize sedating medications
   .
   # Abnormal abdominal exam. Noted to be tympanic on percussion centrally
   despite large ascites. Also tense and distended in upper quadrants but
   relaxed and soft in the lower quadrants. Unable to check residuals with
   her dobhoff. Peritoneal amylase =13, thus unlikely pancreatitis or
   intestinal perf.
   - Check KUB for ileus/obstruction
   - Minimize opiate use
   - Check C. diff
   # Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Initially was hyponatremic on presentation, now
   persistently hypernatremic.  Head CT on [**3-13**] neg for acute intracranial
   process. Consider repeat head CT if suspect cerebral edema in setting
   of fulminant liver failure
   - Continue lactulose and rifaxamin (currently stooling well)
   - Treat hypernatremia as below
   .
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/P diagnostic paracentesis - Second tap
   showed incr WBC with L shift, changed CTX to Zosyn on [**3-15**], per
   informal ID recs.  Bladder pressure elevated on morning of [**3-20**], pt
   increasingly uncomfortable and dyspneic.  Therapeutic para done [**3-20**] to
   remove 2.5L grossly bloody fluid. Requiring increasing amounts of pain
   meds.
   - D/C zosyn (Day 1=[**3-15**]) and Vanco (Day 1 =[**3-17**]) today and start Cipro
   for total [**Month/Year (2) 114**] course of 2 weeks (count day 1 of zosyn as day 1 of [**Month/Year (2) 114**]
   course, thus [**3-15**]) per liver recs. Once completes 2 weeks of [**Last Name (LF) 114**], [**First Name3 (LF) 116**]
   continue cipro at prophylactic dosage
   - peritoneal fluid showing no growth on culture
   .
   # Anemia: Has been stable x 24 hours with aggressive FFP transfusions.
   Cause of anemia likely multifactorial, biggest contributor being
   intrabdominal bleeding after paracenteses superimposed on baseline
   anemia of chronic disease. Also has low grade GI bleed (guaiac pos, not
   grossly bloody). Unlikely that the patient has DIC/hemolysis, since lab
   data underwhelming - low retic index, direct bilirubinemia, normal LDH,
   normal haptoglobin.
   - Will hold off on further FFP transfusions as Hct stable for the time
   being
   - [**Hospital1 **] hct check
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, will titrate transfusions if responding appropriately to blood.
   - Appreciate liver recs
   - GSurgery/ transplant surgery recs: no OR
   .
   # Cirrhosis / hyperbilirubinemia / [**Hospital1 4182**] [**Hospital1 4244**] thrombosis. Patient w/
   mild transaminitis (stable) with stable thrombocytopenia, ascites, LE
   edema, hepatosplenomegaly, and elevated INR.  This is likely secondary
   to cirrhosis from alcoholism with embarrassment by chronic
   acetaminophen use.  Currently not drinking for 1 month per patient and
   husband. [**Name (NI) **] [**Name2 (NI) 4244**] thrombosis seems acute due to no collateral flow
   in the [**Name2 (NI) 4182**] circulation on CT. EGD deferred by GI (feels anemia more
   likely due to hemolysis)
   - Follow liver enzymes
 bilirubin stable in upper 40s
   - minimize non-essential meds
   - appreciate liver recs: will stop octreotide and midodrine today.
   .
   # Acute renal failure. Now resolved. Cr trended up to peak of 3.0
   previously. FENa <1%, thus pre-renal due to hypovolemia (large stool
   output) or hepatorenal syndrome. Cr improved after albumin infusion
   (x3), which argues against HRS.
   - Trend Cr
   - Renally dose meds.
   .
   #  Thrombocytopenia. Improved. Likely secondary to liver failure and
   splenomegaly.  Evaluation for TTP and DIC will be difficult to
   interpret with liver failure.  Rare schistocytes on smear with elevated
   PTT, low fibrinogen, and direct hyperbilirubinemia.  However, LDH
   normal, arguing against TMA. E. coli O175:H7 neg argues against
   TTP/HUS.
   - Follow plt count and transfuse if plt < 10 or as needed to control
   abdominal bleeding
   .
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - Mix meds in D5W
   - Cont free water flushes to 300cc Q4hrs.
   - Cont D5W at 75cc/hr (was decreased to 35cc/hr overnight, will turn it
   back up)
   .
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, TF per nutrition recs, ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: PIV, PICC (placed [**3-19**])
   .
   Code: Full code
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: ICU for now while requiring face mask for hypoxia. Once
   resp status improves, will transfer to floor
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-22**] 03:32 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   18 Gauge - [**2174-3-20**] 08:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2174-03-23 10:51:00 Physician Attending Progress Note
Chief Complaint: Hepatic Failure
   Altered Mental Status
   Renal Failure
   Anemia-Secondary to Blood Loss
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with HCT showing reasonable stability with no transfusions in
   24 hours of blood
   patient with increasing tachypnea and hypoxemia overnight
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-22**] 05:45 PM
   Vancomycin - [**2174-3-23**] 08:34 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-23**] 08:33 AM
   Morphine Sulfate - [**2174-3-23**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2174-3-23**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 104 (99 - 113) bpm
   BP: 139/71(80) {126/60(78) - 160/100(113)} mmHg
   RR: 16 (14 - 39) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  5,694 mL
                                                                  3,385 mL
   PO:
   TF:
                                                                    720 mL
                                                                    317 mL
   IVF:
                                                                  1,429 mL
                                                                    447 mL
   Blood products:
                                                                  1,125 mL
                                                                  1,422 mL
   Total out:
                                                                  2,191 mL
                                                                  1,215 mL
   Urine:
                                                                  1,191 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,503 mL
                                                                  2,170 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 91%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): Place,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   52 K/uL
   148 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   64 mg/dL
   107 mEq/L
   150 mEq/L
   26.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2174-3-21**]  05:06 AM
                             [**2174-3-21**]  09:56 AM
                             [**2174-3-21**]  02:30 PM
                             [**2174-3-21**]  06:04 PM
                             [**2174-3-21**]  11:22 PM
                             [**2174-3-22**]  05:27 AM
                             [**2174-3-22**]  11:28 AM
                             [**2174-3-22**]  05:19 PM
                             [**2174-3-23**]  12:28 AM
                             [**2174-3-23**]  07:36 AM
   WBC
   9.4
   10.2
   10.6
   11.7
   Hct
   25.0
   23.0
   24.0
   25.2
   25.5
   25.7
   24.5
   23.7
   26.0
   Plt
   60
   64
   64
   62
   52
   Cr
   0.8
   0.9
   0.5
   0.6
   Glucose
   153
   213
   130
   140
   148
   Other labs: PT / PTT / INR:21.9/38.5/2.1, CK / CKMB / Troponin-T:20//,
   ALT / AST:53/91, Alk Phos / T Bili:91/48.0, Amylase / Lipase:31/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:228 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:4.4 g/dL, LDH:290
   IU/L, Ca++:10.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: U/A--yeast Pos
   Assessment and Plan
   44 yo female with cirrhosis and admitted with hepatic failure now with
   contined failure of hepatic function but with improved stability of
   renal function, mental status and intra-peritoneal bleeding appears to
   have slowed substantially.
   1)Anemia-Secondary to blood loss-She has not had transfusion for >24
   hours, HCT is unchanged
   -Follow HCT [**Hospital1 **]
   -Transfuse as needed
   -Hold FFP for now given stability
   2)Cirrhosis/Ascites/SBP
   -Vanco/Zosyn
Change to Cipro [**Hospital1 **]
   -Continue with Lactulose/Rifaxamin
   -Re-check bladder pressure
   3)EtOH abuse
   -Thiamine/Folate/MVI
   4)Acute Renal Failure-
   -Continue Midodrine/Octreotide
   -Follow U/O which has diminished
   -[**Month (only) 11**] need increased volume for delivery as evidenced by other evidence
   with Hypernatremia
   -Will recheck bladder pressure today but do not seen any evidence of
   change in abdominal exam
   5)Hypoxemia-
   -[**Month (only) 11**] be related to worsening hypoventilation in the setting of MSO4
   -ABG would help differentiate
   _Will check bladder pressure for possible indication for paracentesis
   but do not suspect it is dominant cause based on exam
   -CXR and KUB
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-22**] 03:32 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   18 Gauge - [**2174-3-20**] 08:56 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Extensive discussion with family, Liver
   service quoting 30% chance of surviving to discharge which family would
   view as favorable enough to continue with full treatment and full code
   status
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2174-03-24 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - KUB - severe ascites, no obstruction
   *Hypoxia:
   - ABG at 2 pm: 7.39/59/68/37 on 70% high flow mask
   - CXR - mult. new opacities ?multifocal PNA evolving?
   - Hepatology: 1) paracentesis 2) lasix for fluid overload
      -> No para done as MS [**First Name (Titles) 43**] [**Last Name (Titles) **]/hypoxia improved with Narcan and less
   ascites visible on U/S.
   *Med changes*
   - Stopped Vanc (Day 1 was [**3-17**]) and Zosyn (Day 1 was [**3-15**]) and started
   Cipro to complete total 2wk abx course (ending [**3-28**]).
   - Lasix 20 mg IV x 1 with little increase in urine output
   - Cr bump from 0.5 -> 1.5 this AM. Given Albumin x1 per hepatology.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-22**] 05:45 PM
   Vancomycin - [**2174-3-23**] 08:34 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-23**] 08:33 AM
   Morphine Sulfate - [**2174-3-23**] 08:35 AM
   Furosemide (Lasix) - [**2174-3-23**] 01:00 PM
   Naloxone (Narcan) - [**2174-3-23**] 03:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-24**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 99 (98 - 110) bpm
   BP: 116/63(76) {116/60(76) - 147/88(100)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  5,793 mL
                                                                  1,524 mL
   PO:
   TF:
                                                                    740 mL
                                                                    333 mL
   IVF:
                                                                  1,350 mL
                                                                    531 mL
   Blood products:
                                                                  1,422 mL
   Total out:
                                                                  1,572 mL
                                                                  1,560 mL
   Urine:
                                                                    627 mL
                                                                    260 mL
   NG:
                                                                     45 mL
   Stool:
                                                                  1,300 mL
   Drains:
   Balance:
                                                                  4,221 mL
                                                                    -36 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: 7.39/59/68/29/7
   PaO2 / FiO2: 136
   Physical Examination
   General: awake, interactive.
   HEENT: + Anisocoria (L pupil 3mm, Right pupil 2mm), diaphoretic,
   reactive to light directly and consensually, Sclera icteric, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur as
   previously heard
   Abdomen: tense in the upper half of abdomen only (soft in the lower
   abdomen). Nontender. Normal bowel sounds. Tympanic to percussion
   centrally, dull otherwise.
   Ext: Warm, well perfused,+ [**2-1**]+ b/l LE pitting edema to the knees
   Neuro: Alert. Oriented x3. Answers questions appropriately. Follows
   commands. Asking to d/c home.
   Labs / Radiology
   52 K/uL
   9.0 g/dL
   126 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.7 mEq/L
   78 mg/dL
   105 mEq/L
   148 mEq/L
   25.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2174-3-21**]  11:22 PM
                             [**2174-3-22**]  05:27 AM
                             [**2174-3-22**]  11:28 AM
                             [**2174-3-22**]  05:19 PM
                             [**2174-3-23**]  12:28 AM
                             [**2174-3-23**]  07:36 AM
                             [**2174-3-23**]  02:03 PM
                             [**2174-3-23**]  06:01 PM
                             [**2174-3-23**]  07:44 PM
                             [**2174-3-24**]  03:20 AM
   WBC
   10.2
   10.6
   11.7
   11.5
   Hct
   25.2
   25.5
   25.7
   24.5
   23.7
   26.0
   24.0
   25.0
   Plt
   64
   62
   52
   52
   Cr
   0.5
   0.6
   0.5
   0.5
   1.5
   TCO2
   37
   Glucose
   130
   140
   148
   632
   126
   126
   Other labs: PT / PTT / INR:23.9/40.8/2.3, ALT / AST:55/93, Alk Phos / T
   Bili:79/50.8, Fibrinogen:228 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:4.4
   g/dL, LDH:305 IU/L, Ca++:10.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Micro
   Stool ([**3-23**])
 C.diff negative.
   Urinalysis ([**3-23**])
 21-50 WBC, Mod Bacteria, Mod leuks, Nitrite Pos.
   Culture pending.
   Imaging
   [**3-23**] KUB - Severe ascites. No evidence of obstruction.
   [**3-23**] CXR
 (Prelim Read) New multiple opacities in both lungs,
   suggestive of multifocal pneumonia in
   progress. PICC line is not visible (removed?).
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcoholism and acetaminophen use, here with anemia, jaundice, and
   altered mental status. Has increased 02 requirement, improved from
   yesterday but not back to baseline.
   .
   # Hypoxia: KUB did show severe ascites and CXR shows possible
   multifocal PNA, however RR/hypoxia somewhat  improved after Narcan.
   Hypoxia likely due to decreased respiratory drive due to morphine as
   well as possible new multifocal PNA.  Patient had temp to 100.0F but
   does not have cough. Has been on vanc/zosyn x9days, but is still at
   risk for HAP. Will hold on starting vanc/cefepime for HAP as patient
   able to wean down to nasal cannula.
   - F/U final read CXR.
   - Wean supplemental O2 as tolerated for goal O2 sat >92%
   - avoid narcotics
   .
   # Acute renal failure: Cr trended up to peak of 3.0 previously. FENa
   <1%, thus pre-renal due to hypovolemia (large stool output) or
   hepatorenal syndrome. Cr improved after albumin infusion (x3), which
   argues against HRS.  Cr normalized x 5days but again elevated at 1.5
   today. [**Month (only) 11**] be secondary to lasix vs. intravasc. volume depletion vs.
   hepatorenal syndrome, especially in setting of d/c
   midodrine/octreotide. Highest suspicion for intravascular volume
   depletion. Will hold on restarting midodrine/octreotide for now,
   pending PM creatinine and hepatology recs.
   - Give Albumin once today and tomorrow per hepatology
   - Check PM lytes.
   - Renally dose meds.
   .
   # Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Initially was hyponatremic on presentation, now
   persistently hypernatremic.  Head CT on [**3-13**] neg for acute intracranial
   process. Consider repeat head CT if suspect cerebral edema in setting
   of fulminant liver failure
   - Continue lactulose and rifaxamin (stooling well)
   - Treat hypernatremia as below
   .
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/P diagnostic paracentesis - Second tap
   showed incr WBC with L shift, changed CTX to Zosyn on [**3-15**], per
   informal ID recs.  Vanc/Zosyn d/c
d [**3-23**] and Cipro started to complete
   total; 2 week abd course. No growth on culture of peritoneal fluid.
   Bladder pressure elevated on morning of [**3-20**], pt increasingly
   uncomfortable and dyspneic. Therapeutic para done [**3-20**] to remove 2.5L
   grossly bloody fluid. Required increasing pain meds [**Date range (1) 5037**] but d/c
   [**3-23**] because no longer complaining of pain.
   - Continue Cipro for total abx course of 2 weeks (last day [**3-28**]) per
   liver recs. Once completes 2 [**Last Name (LF) **], [**First Name3 (LF) 116**] continue cipro at prophylactic
   dosage
   - Recheck bladder pressure with goal < 20mmHg
   .
   # Anemia: Has been stable x 48 hrs with aggressive FFP transfusions.
   Cause likely multifactorial, biggest contributor being intrabd bleeding
   after paracenteses, superimposed on baseline anemia of chronic disease.
   Also has low grade GI bleed (guaiac pos, not grossly bloody). Unlikely
   that the patient has DIC/hemolysis, since lab data underwhelming - low
   retic index, direct bilirubinemia, normal LDH, normal haptoglobin.
   GSurgery/ transplant surgery recs: no OR.
   - Will hold off on further FFP transfusions as Hct stable
   - [**Hospital1 **] hct check
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, will titrate transfusions if responding appropriately to blood.
   .
   # Cirrhosis / hyperbilirubinemia / [**Hospital1 4182**] [**Hospital1 4244**] thrombosis. Patient w/
   mild transaminitis (stable) with stable thrombocytopenia, ascites, LE
   edema, hepatosplenomegaly, and elevated INR.  This is likely secondary
   to cirrhosis from alcoholism with embarrassment by chronic
   acetaminophen use.  Currently not drinking for 1 month per patient and
   husband. [**Name (NI) **] [**Name2 (NI) 4244**] thrombosis seems acute due to no collateral flow
   in the [**Name2 (NI) 4182**] circulation on CT. EGD deferred by GI (feels anemia more
   likely due to hemolysis). d/c
d midodrine/octreotide 3/25 per liver.
   - Follow liver enzymes
 bilirubin slightly increased today at 50.8
   - Restart Octreotide today given ARF.
   - minimize non-essential meds
   - appreciate liver recs
   - Monitor bladder pressure.
   .
   # UTI: Positive U/A on [**3-23**]. Already on ciprofloxacin. Foley changed
   overnight [**Date range (1) 5037**]. Will follow up on culture and adjust abx as
   needed.
   - f/u urine culture.
   - Continue cipro
   .
   #  Thrombocytopenia. Improved. Likely secondary to liver failure and
   splenomegaly.  Evaluation for TTP and DIC difficult to interpret with
   liver failure.  Rare schistocytes on smear with elevated PTT, low
   fibrinogen, and direct hyperbilirubinemia.  However, LDH normal,
   arguing against TMA. E. coli O175:H7 neg argues against TTP/HUS.
   Platelets stable in 50s.
   - Follow plt count and transfuse if plt < 10 or as needed to control
   abdominal bleeding
   .
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - [**Hospital1 **] lytes
   - Mix meds in D5W
   - Cont free water flushes to 300cc Q4hrs.
   - Cont D5W at 75cc/hr
   .
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   .
   FEN: No IVF, replete electrolytes, TF per nutrition recs, ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: PIV, PICC (placed [**3-19**])
   .
   Code: Full code
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   .
   Disposition: Consider transfer to liver service today if pt can
   maintain sats off of high-flow O2.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2174-3-24**] 05:13 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   18 Gauge - [**2174-3-20**] 08:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4782**], MSIV
   I have examined the patient and agree with the above findings and plan.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 4473**], MD  PGY-1

2174-03-24 10:34:00 Physician Attending Progress Note
Chief Complaint: Hepatic Failure
   Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2174-3-23**] 01:18 PM
   -Patient with increased somnolence and good response to narcan
   yesterday
   -Has worsening renal function with creatinine increase over past 24
   hours
   -Bladder pressure normal and U/S showing decrease in fluid volume
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-22**] 05:45 PM
   Vancomycin - [**2174-3-23**] 08:34 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-3-23**] 01:00 PM
   Naloxone (Narcan) - [**2174-3-23**] 03:19 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-24**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 99 (98 - 110) bpm
   BP: 126/68(82) {116/62(76) - 146/88(100)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  5,793 mL
                                                                  2,009 mL
   PO:
   TF:
                                                                    740 mL
                                                                    497 mL
   IVF:
                                                                  1,350 mL
                                                                    776 mL
   Blood products:
                                                                  1,422 mL
                                                                     17 mL
   Total out:
                                                                  1,572 mL
                                                                  1,655 mL
   Urine:
                                                                    627 mL
                                                                    355 mL
   NG:
                                                                     45 mL
   Stool:
                                                                  1,300 mL
   Drains:
   Balance:
                                                                  4,221 mL
                                                                    354 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: 7.39/59/68/29/7
   PaO2 / FiO2: 136
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   52 K/uL
   126 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.7 mEq/L
   78 mg/dL
   105 mEq/L
   148 mEq/L
   25.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2174-3-21**]  11:22 PM
                             [**2174-3-22**]  05:27 AM
                             [**2174-3-22**]  11:28 AM
                             [**2174-3-22**]  05:19 PM
                             [**2174-3-23**]  12:28 AM
                             [**2174-3-23**]  07:36 AM
                             [**2174-3-23**]  02:03 PM
                             [**2174-3-23**]  06:01 PM
                             [**2174-3-23**]  07:44 PM
                             [**2174-3-24**]  03:20 AM
   WBC
   10.2
   10.6
   11.7
   11.5
   Hct
   25.2
   25.5
   25.7
   24.5
   23.7
   26.0
   24.0
   25.0
   Plt
   64
   62
   52
   52
   Cr
   0.5
   0.6
   0.5
   0.5
   1.5
   TCO2
   37
   Glucose
   130
   140
   148
   632
   126
   126
   Other labs: PT / PTT / INR:23.9/40.8/2.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:55/93, Alk Phos / T Bili:79/50.8, Amylase / Lipase:31/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:228 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:4.4 g/dL, LDH:305
   IU/L, Ca++:10.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   44 yo female with history of cirrhosis and persistent and sigfniciant
   hepatic compromise compliacated by altered mental status, renal failure
   and intra-peritoneal bleeding.
   1)Cirrhosis---multiple complications and will be managed as follows
   Altered Mental Status-
   -Lactulose/Rifaxamin
   Ascites-
   -Cipro
   -Check bladder pressure today and consider tap for rising pressure
   associated with respiratory compromise
   Acute Renal Failure-
   -Will provide replaced volume with albumin for now
   -Follow up creatinine
   -[**Month (only) 11**] need to return octreotide/midodrine
   -No diuresis peformed yesterday effectively
   2)Hypoxemia
is concerning for possible PNA but case is mixed.  Given
   significant risk with underlying compromise will
   -Start broad spectrum ABX
   -Will wean o2 as possible today.
   Additional issues to be addressed as defined in the housestaff note of
   this date
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2174-3-24**] 05:13 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2174-3-18**] 05:16 PM
   20 Gauge - [**2174-3-19**] 08:36 AM
   18 Gauge - [**2174-3-20**] 08:56 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : TO floor with liver service in agreement
   Total time spent: 40

2174-03-25 11:36:00 Physician Attending Progress Note
Chief Complaint: Liver Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2174-3-24**] 10:08 PM
 CALLED OUT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-22**] 05:45 PM
   Vancomycin - [**2174-3-23**] 08:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-25**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 101 (97 - 101) bpm
   BP: 126/70(83) {118/63(77) - 128/76(86)} mmHg
   RR: 15 (15 - 20) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  4,637 mL
                                                                     23 mL
   PO:
   TF:
                                                                  1,091 mL
   IVF:
                                                                  1,676 mL
                                                                     23 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  2,980 mL
                                                                     50 mL
   Urine:
                                                                    680 mL
                                                                     50 mL
   NG:
   Stool:
                                                                  2,300 mL
   Drains:
   Balance:
                                                                  1,657 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   52 K/uL
   131 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   81 mg/dL
   103 mEq/L
   146 mEq/L
   23.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2174-3-22**]  05:27 AM
                             [**2174-3-22**]  11:28 AM
                             [**2174-3-22**]  05:19 PM
                             [**2174-3-23**]  12:28 AM
                             [**2174-3-23**]  07:36 AM
                             [**2174-3-23**]  02:03 PM
                             [**2174-3-23**]  06:01 PM
                             [**2174-3-23**]  07:44 PM
                             [**2174-3-24**]  03:20 AM
                             [**2174-3-24**]  02:27 PM
   WBC
   10.6
   11.7
   11.5
   Hct
   25.5
   25.7
   24.5
   23.7
   26.0
   24.0
   25.0
   23.5
   Plt
   62
   52
   52
   Cr
   0.5
   0.6
   0.5
   0.5
   1.5
   1.7
   TCO2
   37
   Glucose
   130
   140
   148
   632
   126
   126
   131
   Other labs: PT / PTT / INR:23.9/40.8/2.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:55/93, Alk Phos / T Bili:79/50.8, Amylase / Lipase:31/33,
   Differential-Neuts:90.8 %, Lymph:5.7 %, Mono:2.5 %, Eos:0.4 %,
   Fibrinogen:228 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:4.4 g/dL, LDH:305
   IU/L, Ca++:10.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   44 yo female with history of cirrhosis and admit with decompensated
   liver failure with likely EtOH and Tylenol ingestion triggering
   worsening.  She had ongoing active issues of altered mental status,
   renal failure and coagulopathy with blood loss anemia dominating
   picture.  She was unable to stay on medical floor due to worsening
   mental status and return to ICU for further care.  Most notable
   Cirrhosis
Multiple complications related to hepatic failure continued
   Altered Mental Status-
   -Rifax/Lactulose
   -Minimize sedating medications
   -Is some concern for new pneumonia but fevers/coughs not prominent
   although he has right sided infiltrate
this is in the setting of NGT
   changes in position and given severe underlying illness will move to
   Vanco/Zosyn
   Hepato-Renal Syndrome/Acute Renal Failure-Cr worsening
   -Midodrine/Octreotide/Albumin to continue today
   Coagulopathy-She has flank hematoma noted on left in area of para but
   HCT reasonably stable
   -FFP as needed for acute bleeding as evidenced by HCT drop
   ICU Care
   Nutrition: TF
s to return when NGT in good position
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-25**] 10:39 AM
   PICC Line - [**2174-3-25**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2174-03-26 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Dobhoff replaced, TF restarted
   - Started vanc/Zosyn for HCAP
   - Decreased D5W to 50cc/hr for concern of overload
   - FiO2 increased overnight to 100% for O2 sat ~90%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-25**] 02:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-26**] 01:59 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-26**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.4
   HR: 95 (94 - 102) bpm
   BP: 118/61(74) {108/58(71) - 137/80(92)} mmHg
   RR: 14 (13 - 18) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  2,644 mL
                                                                  1,549 mL
   PO:
   TF:
                                                                    251 mL
                                                                    338 mL
   IVF:
                                                                  1,384 mL
                                                                    491 mL
   Blood products:
                                                                    649 mL
   Total out:
                                                                  1,590 mL
                                                                  1,650 mL
   Urine:
                                                                    640 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,054 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   General: Appears uncomfortable, minimally verbally responsive,
   jaundiced
   HEENT: Sclera icteric, oropharynx dry
   Neck: supple, JVP not elevated
   Lungs: Mostly clear anteriorly, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur
   Abdomen: distended, no rebound or guarding, unable to assess
   hepatosplenomegaly
   Ext: Warm, well perfused, pneumonoots in place, b/l 3+ LE pitting
   edema
   Labs / Radiology
   73 K/uL
   8.3 g/dL
   127 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   97 mg/dL
   105 mEq/L
   147 mEq/L
   26.0 %
   11.6 K/uL
        [image002.jpg]
                             [**2174-3-22**]  05:19 PM
                             [**2174-3-23**]  12:28 AM
                             [**2174-3-23**]  07:36 AM
                             [**2174-3-23**]  02:03 PM
                             [**2174-3-23**]  06:01 PM
                             [**2174-3-23**]  07:44 PM
                             [**2174-3-24**]  03:20 AM
                             [**2174-3-24**]  02:27 PM
                             [**2174-3-25**]  04:11 PM
                             [**2174-3-26**]  03:50 AM
   WBC
   11.7
   11.5
   10.1
   11.6
   Hct
   24.5
   23.7
   26.0
   24.0
   25.0
   23.5
   26.0
   26.0
   Plt
   52
   52
   50
   73
   Cr
   0.5
   0.6
   0.5
   0.5
   1.5
   1.7
   1.2
   1.8
   TCO2
   37
   Glucose
   140
   148
   632
   126
   126
   131
   112
   127
   Other labs: PT / PTT / INR:25.1/40.8/2.5, CK / CKMB / Troponin-T:20//,
   ALT / AST:52/94, Alk Phos / T Bili:71/46.3, Amylase / Lipase:31/33,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:10.0 %, Mono:7.0 %,
   Eos:4.0 %, Fibrinogen:228 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:4.2
   g/dL, LDH:294 IU/L, Ca++:10.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcohol abuse and tylenol overuse who is status post a 2 week stay in
   the MICU and is transferred back with worsening renal function, mental
   status and respiratory distress.
   .
   # Hypoxia: CXR with possible multifocal pna, but has had decreased
   oxygen requirement since narcan. She also has been on vanc/zosyn for
   the last 9 days so new HAP would be unlikely.  However, VRE, fungal or
   other ESBL organism is a possibility. No cough or fever for the last 24
   hours.  Currently appears tachypneic and uncomfortable. KUB yesterday
   also showed severe ascites, but patient's abdomen at this time appears
   to be predominantly distended from abdominal gas, likely a result of
   lactulose administration.  Bladder pressures have been relatively
   stable in the high teens.   Worsening hypoxia overnight [**3-25**], becoming
   more somnolent, able to maintain O2 sats > 90% with 100 FiO2. Improved
   somewhat with Narcan.
   - CXR shows new infiltrate
 aspiration vs edema
   - Avoid narcotics
   - Repeat bladder pressure
   - Wean supplemental O2 as tolerated for goal O2 sat >92%
   - Would be helpful to get sputum sample though patient is not likely to
   cooperate with this.  Will treat for multifocal pna with vanc/zosyn as
   this likely was a new event/infiltrate.  [**Month (only) 11**] need to consider VRE
   coverage as well.
   .
   # Acute renal failure: Cr trended up to peak of 3.0 previously. FENa
   <1%, thus pre-renal due to hypovolemia (large stool output) or
   hepatorenal syndrome. Cr improved after albumin infusion (x3), which
   argued against HRS.  Cr had normalized x 5 days but again elevated on
   [**3-23**] and appears to be up-trending.  HRS treatment was discontinued and
   has been restarted over the last several days.
   - Continue albumin for likely intravascular volume depletion and HRS
   - Continue midodrine, octreotide
   - Follow [**Hospital1 **] lytes
   - Renally dose meds
   - Avoid nephrotoxins
   .
   # Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Also persistently hypernatremic which is likely
   contributing to her MS.  [**Name13 (STitle) 368**] been receiving free water and Na is
   normalized this morning.  Head CT on [**3-13**] neg for acute intracranial
   process.  Appears a bit more altered this morning, but is still
   responsive to voice.
   - Continue lactulose and rifaxamin (stooling well)
   - Treat hypernatremia as below
   .
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/P diagnostic paracentesis - Second tap
   showed incr WBC with L shift, changed CTX to Zosyn on [**3-15**], per
   informal ID recs.  Vanc/Zosyn d/c
d [**3-23**] and Cipro started to complete
   total 2 week abd course. No growth on culture of peritoneal fluid.
   Bladder pressure elevated on morning of [**3-20**], pt increasingly
   uncomfortable and dyspneic. Therapeutic para done [**3-20**] to remove 2.5L
   grossly bloody fluid. Required increasing pain meds [**Date range (1) 5037**] but d/c
   [**3-23**] because no longer complaining of pain.
   - Restarted vanc/Zosyn, but will switch to Cipro after PNA resolves
   - Recheck bladder pressure today with goal < 20mmHg
   .
   # Anemia: Had been stable x 48 hrs with aggressive FFP transfusions.
   Cause likely multifactorial, biggest contributor being intrabdominal
   bleeding after paracenteses, superimposed on baseline anemia of chronic
   disease. Also has low grade GI bleed (guaiac pos, not grossly bloody).
   Unlikely that the patient has DIC/hemolysis, since lab data
   underwhelming - low retic index, direct bilirubinemia, normal LDH,
   normal haptoglobin. GSurgery/ transplant surgery recs: no OR.  Anemia
   decreased overnight to 23 which may be in the setting of increased free
   water; however, with rising INR, patient may be continuing to bleed.
   She is receiving 1 unit prbcs on the floor this morning and
   post-transfusion Hct is pending.
   - Will hold off on further FFP transfusions for now
   - [**Hospital1 **] hct check
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, will titrate transfusions if responding appropriately to blood.
   .
   # Cirrhosis / hyperbilirubinemia / portal vein thrombosis: Patient w/
   mild transaminitis (stable) with stable thrombocytopenia, ascites, LE
   edema, hepatosplenomegaly, and elevated INR.  This is likely secondary
   to cirrhosis from alcoholism with exacerbation from chronic
   acetaminophen use.  Currently not drinking for 1 month per patient and
   husband prior to admission . Portal vein thrombosis seems acute due to
   no collateral flow in the portal circulation on CT. EGD deferred by GI
   (feels anemia more likely due to hemolysis). D/c
d midodrine/octreotide
   3/25 per liver.
   - Follow liver enzymes
 bilirubin continues to rise
   - Restarted midodrine/octreotide as above
   - minimize non-essential meds
   - Appreciate liver recs, will continue to have ongoing discussion with
   liver team regarding prognosis and likelihood of recovery.
   - Monitor bladder pressure
   .
   # UTI: Positive U/A on [**3-23**], culture growing yeast. On ciprofloxacin.
   Foley changed overnight [**Date range (1) 5037**]. Will follow up on culture and adjust
   abx as needed.  Repeat culture growing yeast.
   - Continue cipro
   - Consider antifungal treatment if patient continues to decompensate,
   though no positive blood cultures
   .
   #  Thrombocytopenia. Improved. Likely secondary to liver failure and
   splenomegaly.  Evaluation for TTP and DIC difficult to interpret with
   liver failure.  Rare schistocytes on smear with elevated PTT, low
   fibrinogen, and direct hyperbilirubinemia.  However, LDH normal,
   arguing against TMA. E. coli O175:H7 neg argues against TTP/HUS.
   Platelets stable in 50s.
   - Follow plt count and transfuse if plt < 10 or as needed to control
   bleeding
   .
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - [**Hospital1 **] lytes
   - Mix meds in D5W
   - Cont free water flushes to 300cc Q4hrs
   - Decreased D5W to 50cc/hr
   .
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   .
   # FEN: IVF as above, replete electrolytes, TF per nutrition recs, ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia).
   .
   Access: PIV, PICC (placed [**3-19**])
   .
   Code: Full code.  Ongoing discussion between liver team, MICU team and
   family given patient's declining status
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2174-3-25**] 04:47 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-25**] 10:39 AM
   PICC Line - [**2174-3-25**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2174-03-26 09:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yr old ESLD, EtOH cirrhosis, bounced back yesterday for tachypnea
   24 Hour Events:
   Dobhoff replaced, tube feeds restarted, started back on Vanc/Zosyn for
   ? aspiration.
   Increasing O2 requirements (deasts to low 90s) --> decreased IVF rate
                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-26**] 01:59 AM
   Vancomycin - [**2174-3-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-26**] 08:38 AM
   Other medications:
   Meds reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-26**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 101 (94 - 105) bpm
   BP: 122/72(84) {108/58(71) - 137/80(92)} mmHg
   RR: 18 (13 - 20) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  2,644 mL
                                                                  2,034 mL
   PO:
   TF:
                                                                    251 mL
                                                                    385 mL
   IVF:
                                                                  1,384 mL
                                                                    810 mL
   Blood products:
                                                                    649 mL
   Total out:
                                                                  1,590 mL
                                                                  1,750 mL
   Urine:
                                                                    640 mL
                                                                    550 mL
   NG:
   Stool:
                                                                   1200 mL
   Drains:
   Balance:
                                                                    ~ even
                                                                    284 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+ pitting edema up to knees
   Skin:  Warm, Neurologic: Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, slow speech
   Labs / Radiology
   8.3 g/dL
   73 K/uL
   127 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   97 mg/dL
   105 mEq/L
   147 mEq/L
   26.0 %
   11.6 K/uL
        [image002.jpg]
                             [**2174-3-22**]  05:19 PM
                             [**2174-3-23**]  12:28 AM
                             [**2174-3-23**]  07:36 AM
                             [**2174-3-23**]  02:03 PM
                             [**2174-3-23**]  06:01 PM
                             [**2174-3-23**]  07:44 PM
                             [**2174-3-24**]  03:20 AM
                             [**2174-3-24**]  02:27 PM
                             [**2174-3-25**]  04:11 PM
                             [**2174-3-26**]  03:50 AM
   WBC
   11.7
   11.5
   10.1
   11.6
   Hct
   24.5
   23.7
   26.0
   24.0
   25.0
   23.5
   26.0
   26.0
   Plt
   52
   52
   50
   73
   Cr
   0.5
   0.6
   0.5
   0.5
   1.5
   1.7
   1.2
   1.8
   TCO2
   37
   Glucose
   140
   148
   632
   126
   126
   131
   112
   127
   Other labs: PT / PTT / INR:25.1/40.8/2.5, CK / CKMB / Troponin-T:20//,
   ALT / AST:52/94, Alk Phos / T Bili:71/46.3, Amylase / Lipase:31/33,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:10.0 %, Mono:7.0 %,
   Eos:4.0 %, Fibrinogen:228 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:4.2
   g/dL, LDH:294 IU/L, Ca++:10.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   44 yo female with history of cirrhosis and admit with decompensated
   liver failure with likely EtOH and Tylenol ingestion triggering
   worsening.  She had ongoing active issues of altered mental status,
   renal failure and coagulopathy with blood loss anemia dominating
   picture.  She was unable to stay on medical floor due to worsening
   mental status/tachypnea and return to ICU for further care.
   Notable issues:
   Cirrhosis
Multiple complications related to hepatic failure continued
   Altered Mental Status-
   -Rifax/Lactulose
   -Minimize sedating medications
   - likely due in part to renal failure, pneumonia, underlying cirrhosis
   Acute respiratory failure
   -some concern for new pneumonia but fevers/coughs not prominent
   although has right sided infiltrate
this is in the setting of NGT
   changes in position. Agree with continuing Vanco/Zosyn. [**Month (only) 11**] need
   intubation. Will check ABG
   Hepato-Renal Syndrome/Acute Renal Failure
   - Cr worsening, recheck bladder pressure
   -Midodrine/Octreotide/Albumin to continue today
   Coagulopathy
   - She has flank hematoma noted on left in area of para but HCT
   reasonably stable
   -FFP as needed for acute bleeding as evidenced by HCT drop
   - stable Hct
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2174-3-25**] 10:39 AM
   PICC Line - [**2174-3-25**] 10:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:  husband updated, will
   rediscuss code status
   Code status: Full code
   Disposition :
   Total time spent:  40
   Patient is critically ill

2174-03-27 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hepatology recs: increase midodrine to 5mg TID
   - Bladder pressure at 10pm 22
   - Family mtg: okay to intubate if necessary
   - FIO2 weaned from 100% to 60%
   - Started lanthanum due to increasing PO4
   - Inc D5W from 50 to 75 to 100 cc/hr for increasing serum Na
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-26**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-27**] 04:08 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-26**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-27**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 92 (86 - 101) bpm
   BP: 111/67(76) {105/44(59) - 133/72(84)} mmHg
   RR: 11 (8 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  3,789 mL
                                                                    855 mL
   PO:
   TF:
                                                                    385 mL
   IVF:
                                                                  1,954 mL
                                                                    655 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  2,710 mL
                                                                  1,440 mL
   Urine:
                                                                  1,510 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,079 mL
                                                                   -585 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.31/60/198/30/2
   PaO2 / FiO2: 330
   Physical Examination
   General: Appears uncomfortable, minimally verbally responsive,
   jaundiced
   HEENT: Sclera icteric, oropharynx dry
   Neck: supple, JVP not elevated
   Lungs: Mostly clear anteriorly, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur
   Abdomen: distended, no rebound or guarding, unable to assess
   hepatosplenomegaly
   Ext: Warm, well perfused, pneumonoots in place, b/l 3+ LE pitting
   edema
   Labs / Radiology
   63 K/uL
   7.9 g/dL
   126 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.1 mEq/L
   105 mg/dL
   107 mEq/L
   150 mEq/L
   26.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2174-3-23**]  06:01 PM
                             [**2174-3-23**]  07:44 PM
                             [**2174-3-24**]  03:20 AM
                             [**2174-3-24**]  02:27 PM
                             [**2174-3-25**]  04:11 PM
                             [**2174-3-26**]  03:50 AM
                             [**2174-3-26**]  11:05 AM
                             [**2174-3-26**]  05:29 PM
                             [**2174-3-26**]  11:51 PM
                             [**2174-3-27**]  03:16 AM
   WBC
   11.5
   10.1
   11.6
   10.9
   11.1
   Hct
   24.0
   25.0
   23.5
   26.0
   26.0
   26.5
   26.0
   Plt
   52
   50
   73
   70
   63
   Cr
   0.5
   0.5
   1.5
   1.7
   1.2
   1.8
   1.9
   1.0
   TCO2
   33
   32
   Glucose
   632
   126
   126
   131
   112
   127
   114
   126
   Other labs: PT / PTT / INR:27.8/44.7/2.8, CK / CKMB / Troponin-T:20//,
   ALT / AST:46/83, Alk Phos / T Bili:52/48.2, Amylase / Lipase:31/33,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:10.0 %, Mono:7.0 %,
   Eos:4.0 %, Fibrinogen:228 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:4.2
   g/dL, LDH:228 IU/L, Ca++:10.6 mg/dL, Mg++:2.0 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcohol abuse and tylenol overuse who is status post a 2 week stay in
   the MICU and is transferred back with worsening renal function, mental
   status and respiratory distress.
   .
   # Hypoxia: CXR with possible multifocal pna, but has had decreased
   oxygen requirement since narcan. She also has been on vanc/zosyn for
   the last 9 days so new HAP would be unlikely.  However, VRE, fungal or
   other ESBL organism is a possibility. No cough or fever for the last 24
   hours.  Currently appears tachypneic and uncomfortable. KUB yesterday
   also showed severe ascites, but patient's abdomen at this time appears
   to be predominantly distended from abdominal gas, likely a result of
   lactulose administration.  Bladder pressures have been relatively
   stable in the high teens.   Worsening hypoxia overnight [**3-25**], becoming
   more somnolent, able to maintain O2 sats > 90% with 100 FiO2. Improved
   somewhat with Narcan.
   - CXR shows new infiltrate
 aspiration vs edema
   - Likely needs to be intubated, but will monitor with ABG for worsening
   hypoxemia and hypercarbia
   - Avoid narcotics
   - Repeat bladder pressure
   - Wean supplemental O2 as tolerated for goal O2 sat >92%
   - Would be helpful to get sputum sample though patient is not likely to
   cooperate with this.  Will treat for multifocal pna with vanc/zosyn as
   this likely was a new event/infiltrate.  [**Month (only) 11**] need to consider VRE
   coverage as well.
   .
   # Acute renal failure: Cr trended up to peak of 3.0 previously. FENa
   <1%, thus pre-renal due to hypovolemia (large stool output) or
   hepatorenal syndrome. Cr improved after albumin infusion (x3), which
   argued against HRS.  Cr had normalized x 5 days but again elevated on
   [**3-23**] and is increasing.  HRS treatment was discontinued and has been
   restarted over the last several days.
   - Continue albumin for likely intravascular volume depletion and HRS
   - Continue octreotide , increase midodrine per Liver
   - Follow [**Hospital1 **] lytes
   - Renally dose meds
   - Avoid nephrotoxins
   .
   # Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Also persistently hypernatremic which is likely
   contributing to her AMS.  Has been receiving free water and Na is
   stable and mildly elevated.  Head CT on [**3-13**] neg for acute intracranial
   process.  Appears a bit more altered this morning, but is still
   responsive to voice.
   - Continue lactulose and rifaxamin (stooling well)
   - Treat hypernatremia as below
   .
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/P diagnostic paracentesis - Second tap
   showed incr WBC with L shift, changed CTX to Zosyn on [**3-15**], per
   informal ID recs.  Vanc/Zosyn d/c
d [**3-23**] and Cipro started to complete
   total 2 week abd course. No growth on culture of peritoneal fluid.
   Bladder pressure elevated on morning of [**3-20**], pt increasingly
   uncomfortable and dyspneic. Therapeutic para done [**3-20**] to remove 2.5L
   grossly bloody fluid. Required increasing pain meds [**Date range (1) 5037**] but d/c
   [**3-23**] because no longer complaining of pain.
   - Restarted vanc/Zosyn, but will switch to Cipro after PNA resolves
   - Recheck bladder pressure today with goal < 20mmHg
   .
   # Anemia: Stable after aggressive FFP transfusions. Cause likely
   multifactorial, biggest contributor being intrabdominal bleeding after
   paracenteses, superimposed on baseline anemia of chronic disease. Also
   has low grade GI bleed (guaiac pos, not grossly bloody). Unlikely that
   the patient has DIC/hemolysis, since lab data underwhelming - low retic
   index, direct bilirubinemia, normal LDH, normal haptoglobin. GSurgery/
   transplant surgery recs: no OR.
   - Will hold off on further FFP transfusions for now
   - Daily HCT check
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, will titrate transfusions if responding appropriately to blood.
   .
   # Cirrhosis / hyperbilirubinemia / portal vein thrombosis: Patient w/
   mild transaminitis (stable) with stable thrombocytopenia, ascites, LE
   edema, hepatosplenomegaly, and elevated INR.  This is likely secondary
   to cirrhosis from alcoholism with exacerbation from chronic
   acetaminophen use.  Currently not drinking for 1 month per patient and
   husband prior to admission . Portal vein thrombosis seems acute due to
   no collateral flow in the portal circulation on CT. EGD deferred by GI
   (feels anemia more likely due to hemolysis). D/c
d midodrine/octreotide
   3/25 per liver.
   - Follow liver enzymes
 bilirubin stable and elevated
   - Continue midodrine/octreotide as above
   - minimize non-essential meds
   - Appreciate liver recs, will continue to have ongoing discussion with
   liver team regarding prognosis and likelihood of recovery.
   .
   # UTI: Positive U/A on [**3-23**], culture growing yeast. On ciprofloxacin.
   Foley changed overnight [**Date range (1) 5037**]. Will follow up on culture and adjust
   abx as needed.  Repeat culture growing yeast.
   - Continue cipro
   - Consider antifungal treatment if patient continues to decompensate,
   though no positive blood cultures
   .
   #  Thrombocytopenia. Improved. Likely secondary to liver failure and
   splenomegaly.  Evaluation for TTP and DIC difficult to interpret with
   liver failure.  Rare schistocytes on smear with elevated PTT, low
   fibrinogen, and direct hyperbilirubinemia.  However, LDH normal,
   arguing against TMA. E. coli O175:H7 neg argues against TTP/HUS.
   - Follow plt count and transfuse if plt < 10 or as needed to control
   bleeding
   .
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - [**Hospital1 **] lytes
   - Mix meds in D5W
   - Cont free water flushes to 300cc Q4hrs
   - Decreased D5W to 50cc/hr
   .
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   .
   # FEN: IVF as above, replete electrolytes, TF per nutrition recs, ISS
   .
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia), PPI
   .
   Access: PIV, PICC (placed [**3-19**])
   .
   Code: Full code.  Ongoing discussion between liver team, MICU team and
   family given patient's declining status. Will discuss intubation today,
   although not certain it will happen.
   .
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-25**] 10:39 AM
   PICC Line - [**2174-3-25**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-27 12:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - family meeting, wishes for patient to be intubated if necessary
   - pt weaned down to 50% FiO2, sats 97%
   - hypernatremia, treated with 1/2 NS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-27**] 04:08 AM, day 2 since
   restart
   Vancomycin - [**2174-3-27**] 08:30 AM, d 2
   Piperacillin - [**2174-3-27**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-27**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 88 (86 - 95) bpm
   BP: 121/64(74) {105/44(59) - 126/67(78)} mmHg
   RR: 14 (7 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   Bladder pressure: 16 (16 - 22) mmHg
   Total In:
                                                                  3,789 mL
                                                                  1,305 mL
   PO:
   TF:
                                                                    385 mL
   IVF:
                                                                  1,954 mL
                                                                    955 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  2,710 mL
                                                                  1,930 mL
   Urine:
                                                                  1,510 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,079 mL
                                                                   -625 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   FiO2: 50% mask
   SpO2: 96%
   ABG: 7.31/60/198/30/2
   PaO2 / FiO2: 330
   Physical Examination
   Neuro
 barely responds to verbal commands by saying
, not moving
   extreme, asterixis
   Eyes / Conjunctiva: PERRL, jaundiced
   Cardiovascular: (S1: Normal), (S2: Normal), SEM
   Peripheral Vascular: PPP
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Neurologic: Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   63 K/uL
   126 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.1 mEq/L
   105 mg/dL
   107 mEq/L
   150 mEq/L
   26.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2174-3-23**]  06:01 PM
                             [**2174-3-23**]  07:44 PM
                             [**2174-3-24**]  03:20 AM
                             [**2174-3-24**]  02:27 PM
                             [**2174-3-25**]  04:11 PM
                             [**2174-3-26**]  03:50 AM
                             [**2174-3-26**]  11:05 AM
                             [**2174-3-26**]  05:29 PM
                             [**2174-3-26**]  11:51 PM
                             [**2174-3-27**]  03:16 AM
   WBC
   11.5
   10.1
   11.6
   10.9
   11.1
   Hct
   24.0
   25.0
   23.5
   26.0
   26.0
   26.5
   26.0
   Plt
   52
   50
   73
   70
   63
   Cr
   0.5
   0.5
   1.5
   1.7
   1.2
   1.8
   1.9
   1.0
   TCO2
   33
   32
   Glucose
   632
   126
   126
   131
   112
   127
   114
   126
   Other labs: PT / PTT / INR:27.8/44.7/2.8, CK / CKMB / Troponin-T:20//,
   ALT / AST:46/83, Alk Phos / T Bili:52/48.2, Amylase / Lipase:31/33,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:10.0 %, Mono:7.0 %,
   Eos:4.0 %, Fibrinogen:228 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:4.2
   g/dL, LDH:228 IU/L, Ca++:10.6 mg/dL, Mg++:2.0 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   44 yo female with history of cirrhosis and admit with decompensated
   liver failure with likely EtOH and Tylenol ingestion triggering
   worsening.  She had ongoing active issues of altered mental status,
   renal failure and coagulopathy with blood loss anemia dominating
   picture.  She was unable to stay on medical floor due to worsening
   mental status/tachypnea and return to ICU for further care.  Notable
   issues:
   Cirrhosis
Multiple complications related to hepatic failure continued
   Altered Mental Status-
   -Rifax/Lactulose with no improvement, will increase lactulose
   - likely due in part to renal failure, pneumonia, underlying cirrhosis
   Acute respiratory failure
   -some concern for new pneumonia but fevers/coughs not prominent
   although has right sided infiltrate
this is in the setting of NGT
   changes in position. Agree with continuing Vanco/Zosyn. [**Month (only) 11**] need
   intubation. Will repeat ABG
   Hepato-Renal Syndrome/Acute Renal Failure
   - BUN worsening, recheck bladder pressure
   -Midodrine/Octreotide/Albumin to continue today
   Coagulopathy
   - She has flank hematoma noted on left in area of para but HCT remains
   stable
   Very poor prognosis. Goals of care need to be addressed regularly with
   family. Currently full code but would not expect a meaningful recovery
   in the event of a cardiopulmonary arrest.
   ICU Care
   Nutrition: resume
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2174-3-25**] 10:39 AM
   PICC Line - [**2174-3-25**] 10:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2174-03-28 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - C/o abdominal and leg pain; could not elaborate. Gave ultram x 1 and
   simethicone for bloating
   - Was more alert and verbal
   - Sodium in the evening was 150, thus D5W at 175cc/hr to correct
   hypernatremia
   - O2 sats in mid-90s with 4-5L O2 NC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-27**] 04:08 AM
   Vancomycin - [**2174-3-27**] 08:00 PM
   Piperacillin - [**2174-3-28**] 04:14 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-28**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 89 (87 - 101) bpm
   BP: 113/57(70) {96/49(61) - 131/67(79)} mmHg
   RR: 10 (7 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  5,424 mL
                                                                  1,827 mL
   PO:
   TF:
                                                                    550 mL
                                                                    333 mL
   IVF:
                                                                  3,284 mL
                                                                  1,315 mL
   Blood products:
   Total out:
                                                                  5,050 mL
                                                                  1,430 mL
   Urine:
                                                                  1,700 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    374 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   Physical Examination
   General: Resting comfortably in bed, minimally verbally responsive,
   jaundiced
   HEENT: Sclera icteric, oropharynx dry
   Neck: supple, JVP not elevated
   Lungs: Mostly clear anteriorly, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, + systolic murmur,
   hyperdynamic
   Abdomen: distended, not tender, no rebound or guarding, unable to
   assess hepatosplenomegaly
   Ext: Warm, well perfused, pneumonoots in place, b/l 3+ LE pitting edema
   Labs / Radiology
   76 K/uL
   8.9 g/dL
   172 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   100 mg/dL
   106 mEq/L
   147 mEq/L
   24.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2174-3-24**]  03:20 AM
                             [**2174-3-24**]  02:27 PM
                             [**2174-3-25**]  04:11 PM
                             [**2174-3-26**]  03:50 AM
                             [**2174-3-26**]  11:05 AM
                             [**2174-3-26**]  05:29 PM
                             [**2174-3-26**]  11:51 PM
                             [**2174-3-27**]  03:16 AM
                             [**2174-3-27**]  04:36 PM
                             [**2174-3-28**]  02:53 AM
   WBC
   11.5
   10.1
   11.6
   10.9
   11.1
   12.9
   12.0
   Hct
   25.0
   23.5
   26.0
   26.0
   26.5
   26.0
   26.0
   24.9
   Plt
   52
   50
   73
   70
   63
   68
   76
   Cr
   1.5
   1.7
   1.2
   1.8
   1.9
   1.0
   1.0
   0.8
   TCO2
   33
   32
   Glucose
   126
   131
   112
   127
   114
   126
   173
   172
   Other labs: PT / PTT / INR:27.8/44.7/2.8, CK / CKMB / Troponin-T:20//,
   ALT / AST:52/92, Alk Phos / T Bili:64/47.5, Amylase / Lipase:31/33,
   Differential-Neuts:87.5 %, Band:0.0 %, Lymph:7.1 %, Mono:3.3 %, Eos:1.9
   %, Fibrinogen:228 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.9 g/dL,
   LDH:272 IU/L, Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcohol abuse and tylenol overuse who is status post a 2 week stay in
   the MICU and is transferred back with worsening renal function, mental
   status and respiratory distress.
   # Hypoxia: CXR with possible multifocal pna, but has had decreased
   oxygen requirement since narcan. She also completed 9 days of
   vanc/zosyn for SBP thus it would be unlikely that pt developed a new
   PNA. However, VRE, fungal or other ESBL organism is a possibility. Her
   abdominal girth may also be contributing to decreased chest wall
   compliance. Worsening hypoxia overnight [**3-25**], becoming more somnolent,
   able to maintain O2 sats > 90% with 100 FiO2. Improved somewhat with
   Narcan. Satting in mid-90s on 4-5L O2 NC this morning.
   - CXR shows new infiltrate
 aspiration vs edema; will treat with
   Vanc/Zosyn again as this was a new event/infiltrate. Consider VRE
   coverage as well.
   - Will try to avoid intubation as it will likely be very difficult to
   extubated; however OK to intubate if necessary per family.
   - Avoid narcotics (none given since [**3-24**])
   - Repeat bladder pressure (15 this morning)
   - Wean supplemental O2 as tolerated for goal O2 sat >92%
   # Acute renal failure: Cr trended up to peak of 3.0 previously. FENa
   <1%, thus pre-renal due to hypovolemia (large stool output) or
   hepatorenal syndrome. Cr improves after albumin infusion (5 infusions
   of 75g each so far), which argues against HRS. HRS treatment was
   discontinued and has been restarted over the last several days.
   - Continue octreotide, midodrine per Liver
   - Follow [**Hospital1 **] lytes
   - Renally dose meds
   - Avoid nephrotoxins
   # Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Also persistently hypernatremic which is likely
   contributing to her AMS.  Has been receiving free water and Na is
   stable and mildly elevated.  Head CT on [**3-13**] neg for acute intracranial
   process.  Appears a bit more altered this morning, but is still
   responsive to voice.
   - Increase lactulose and continue rifaxamin; quantify stool output to
   monitor response
   - Treat hypernatremia as below
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/P diagnostic paracentesis - Second tap
   showed incr WBC with L shift, changed CTX to Zosyn on [**3-15**], per
   informal ID recs.  Also added Vanc. Vanc/Zosyn d/c
d [**3-23**] with
   intention of switching to Cipro, however given new infiltrate on CXR
   along with increasing resp distress Vanc and Zosyn were re-started. No
   growth on culture of peritoneal fluid. Therapeutic para done [**3-20**] to
   remove 2.5L grossly bloody fluid.
   - Continue Vanc/Zosyn for now, but will switch to Cipro after PNA
   resolves
   - Recheck bladder pressure
   # Anemia: Stable after aggressive FFP transfusions. Cause likely
   multifactorial, biggest contributor being intrabdominal bleeding after
   paracenteses, superimposed on baseline anemia of chronic disease. Also
   has low grade GI bleed (guaiac pos, not grossly bloody). Unlikely that
   the patient has DIC/hemolysis, since lab data underwhelming - low retic
   index, direct bilirubinemia, normal LDH, normal haptoglobin. GSurgery/
   transplant surgery recs: no OR.
   - Will hold off on further FFP transfusions for now
   - Daily HCT check
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, will titrate transfusions if responding appropriately to blood.
   # Cirrhosis / hyperbilirubinemia / portal vein thrombosis: Patient w/
   mild transaminitis (stable) with stable thrombocytopenia, ascites, LE
   edema, hepatosplenomegaly, and elevated INR.  This is likely secondary
   to cirrhosis from alcoholism with exacerbation from chronic
   acetaminophen use.  Currently not drinking for 1 month per patient and
   husband prior to admission . Portal vein thrombosis seems acute due to
   no collateral flow in the portal circulation on CT. EGD deferred by GI
   (feels anemia more likely due to hemolysis). D/c
d midodrine/octreotide
   3/25 per liver.
   - Follow liver enzymes
 bilirubin stable and elevated
   - Continue midodrine/octreotide as above
   - minimize non-essential meds
   - Appreciate liver recs, will continue to have ongoing discussion with
   liver team regarding prognosis and likelihood of recovery.
   # UTI: Positive U/A on [**3-23**], culture growing yeast. Foley changed
   overnight [**Date range (1) 5037**].
   - Consider antifungal treatment if patient decompensates, though no
   positive blood cultures
   #  Thrombocytopenia. Improved. Likely secondary to liver failure and
   splenomegaly.  Evaluation for TTP and DIC difficult to interpret with
   liver failure.  Rare schistocytes on smear with elevated PTT, low
   fibrinogen, and direct hyperbilirubinemia.  However, LDH normal,
   arguing against TMA. E. coli O175:H7 neg argues against TTP/HUS.
   - Follow plt count and transfuse if plt < 10 or as needed to control
   bleeding
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - Mix meds in D5W
   - Cont free water flushes to 300cc Q4hrs
   - Continue D5W at 100cc/hr for now, recheck lytes in afternoon.
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   # FEN: IVF as above, replete electrolytes, TF per nutrition recs, ISS
   Prophylaxis: Pneumoboots (no HSQ given elevated INR and
   thrombocytopenia), PPI
   Access: PIV, PICC (placed [**3-19**])
   Code: Full code.  Ongoing discussion between liver team, MICU team and
   family given patient's declining status. Poor prognosis.
   Communication: Patient, Husband [**Name (NI) 117**]
   Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**] [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2174-3-27**] 01:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-25**] 10:39 AM
   PICC Line - [**2174-3-25**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Ongoing critical care needs at this time.

2174-03-28 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - C/o abdominal and leg pain; could not elaborate. Gave ultram x 1 and
   simethicone for bloating
   - Was more alert and verbal
   - Sodium in the evening was 150, thus D5W at 175cc/hr to correct
   hypernatremia
   - O2 sats in mid-90s with 4-5L O2 NC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-27**] 04:08 AM
   Vancomycin - [**2174-3-27**] 08:00 PM
   Piperacillin - [**2174-3-28**] 04:14 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-28**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 89 (87 - 101) bpm
   BP: 113/57(70) {96/49(61) - 131/67(79)} mmHg
   RR: 10 (7 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  5,424 mL
                                                                  1,940 mL
   PO:
   TF:
                                                                    550 mL
                                                                    358 mL
   IVF:
                                                                  3,284 mL
                                                                  1,402 mL
   Blood products:
   Total out:
                                                                  5,050 mL
                                                                  1,430 mL
   Urine:
                                                                  1,700 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    374 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   Physical Examination
   General: Resting comfortably in bed, verbally responsive, jaundiced
   HEENT: Sclera icteric, oral mucosa dry with thick oral secretions
   Neck: supple, no LAD
   Lungs: Bilaterally clear anteriorly, no wheezes
   CV: RR, normal S1, S2, III/VI systolic murmur throughout precordium,
   loudest at LUSB
   Abdomen: distended, tender to palpation and percussion, no rebound or
   guarding, unable to assess hepatosplenomegaly
   Ext: Warm, well perfused, pneumonoots in place, b/l 3+ LE pitting edema
   Labs / Radiology
   76 K/uL
   8.9 g/dL
   172 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   100 mg/dL
   106 mEq/L
   147 mEq/L
   24.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2174-3-24**]  03:20 AM
                             [**2174-3-24**]  02:27 PM
                             [**2174-3-25**]  04:11 PM
                             [**2174-3-26**]  03:50 AM
                             [**2174-3-26**]  11:05 AM
                             [**2174-3-26**]  05:29 PM
                             [**2174-3-26**]  11:51 PM
                             [**2174-3-27**]  03:16 AM
                             [**2174-3-27**]  04:36 PM
                             [**2174-3-28**]  02:53 AM
   WBC
   11.5
   10.1
   11.6
   10.9
   11.1
   12.9
   12.0
   Hct
   25.0
   23.5
   26.0
   26.0
   26.5
   26.0
   26.0
   24.9
   Plt
   52
   50
   73
   70
   63
   68
   76
   Cr
   1.5
   1.7
   1.2
   1.8
   1.9
   1.0
   1.0
   0.8
   TCO2
   33
   32
   Glucose
   126
   131
   112
   127
   114
   126
   173
   172
   Other labs: PT / PTT / INR:27.8/44.7/2.8, CK / CKMB / Troponin-T:20//,
   ALT / AST:52/92, Alk Phos / T Bili:64/47.5, Amylase / Lipase:31/33,
   Differential-Neuts:87.5 %, Band:0.0 %, Lymph:7.1 %, Mono:3.3 %, Eos:1.9
   %, Fibrinogen:228 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.9 g/dL,
   LDH:272 IU/L, Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcohol abuse and tylenol overuse who is status post a 2 week stay in
   the MICU and is transferred back with worsening renal function, mental
   status and respiratory distress.
   # Hypoxia: CXR with possible multifocal pna, but has had decreased
   oxygen requirement since narcan. She also completed 9 days of
   vanc/zosyn for SBP thus it would be unlikely that pt developed a new
   PNA. However, VRE, fungal or other ESBL organism is a possibility. Her
   abdominal girth may also be contributing to decreased chest wall
   compliance. Worsening hypoxia overnight [**3-25**], becoming more somnolent,
   able to maintain O2 sats > 90% with 100 FiO2. Improved somewhat with
   Narcan. Satting in mid-90s on 4-5L O2 NC this morning.
   - CXR shows new infiltrate
 aspiration vs edema; will treat with
   Vanc/Zosyn again as this was a new event/infiltrate. Consider VRE
   coverage as well.
   - Will try to avoid intubation as it will likely be very difficult to
   extubated; however OK to intubate if necessary per family.
   - Avoid narcotics (none given since [**3-24**])
   - Repeat bladder pressure (15 this morning)
   - Wean supplemental O2 as tolerated for goal O2 sat >92%
   # Acute renal failure: Cr trended up to peak of 3.0 previously. FENa
   <1%, thus pre-renal due to hypovolemia (large stool output) or
   hepatorenal syndrome. Cr improves after albumin infusion (5 infusions
   of 75g each so far), which argues against HRS. HRS treatment was
   discontinued and has been restarted over the last several days.
   - Continue octreotide, midodrine per Liver
   - Follow [**Hospital1 **] lytes
   - Renally dose meds
   - Avoid nephrotoxins
   # Altered mental status. Waxing and [**Doctor Last Name 282**]. Likely hepatic
   encephalopathy and SBP. Also persistently hypernatremic which is likely
   contributing to her AMS.  Has been receiving free water and Na is
   stable and mildly elevated.  Head CT on [**3-13**] neg for acute intracranial
   process.  Appears a bit more altered this morning, but is still
   responsive to voice.
   - Increase lactulose and continue rifaxamin; quantify stool output to
   monitor response
   - Treat hypernatremia as below
   # SBP: Received Unasyn x 3 days at OSH for SBP Prophylaxis. Started
   Ceftriaxone upon arrival here. S/P diagnostic paracentesis - Second tap
   showed incr WBC with L shift, changed CTX to Zosyn on [**3-15**], per
   informal ID recs.  Also added Vanc. Vanc/Zosyn d/c
d [**3-23**] with
   intention of switching to Cipro, however given new infiltrate on CXR
   along with increasing resp distress Vanc and Zosyn were re-started. No
   growth on culture of peritoneal fluid. Therapeutic para done [**3-20**] to
   remove 2.5L grossly bloody fluid.
   - Continue Vanc/Zosyn for now, but will switch to Cipro after PNA
   resolves
   - Recheck bladder pressure
   # Anemia: Stable after aggressive FFP transfusions. Cause likely
   multifactorial, biggest contributor being intrabdominal bleeding after
   paracenteses, superimposed on baseline anemia of chronic disease. Also
   has low grade GI bleed (guaiac pos, not grossly bloody). Unlikely that
   the patient has DIC/hemolysis, since lab data underwhelming - low retic
   index, direct bilirubinemia, normal LDH, normal haptoglobin. GSurgery/
   transplant surgery recs: no OR.
   - Will hold off on further FFP transfusions for now
   - Daily HCT check
   - Will treat supportively with blood products. Goal Hct is 21 if
   stable, will titrate transfusions if responding appropriately to blood.
   # Cirrhosis / hyperbilirubinemia / portal vein thrombosis: Patient w/
   mild transaminitis (stable) with stable thrombocytopenia, ascites, LE
   edema, hepatosplenomegaly, and elevated INR.  This is likely secondary
   to cirrhosis from alcoholism with exacerbation from chronic
   acetaminophen use.  Currently not drinking for 1 month per patient and
   husband prior to admission . Portal vein thrombosis seems acute due to
   no collateral flow in the portal circulation on CT. EGD deferred by GI
   (feels anemia more likely due to hemolysis). D/c
d midodrine/octreotide
   3/25 per liver.
   - Follow liver enzymes
 bilirubin stable and elevated
   - Continue midodrine/octreotide as above
   - minimize non-essential meds
   - Appreciate liver recs, will continue to have ongoing discussion with
   liver team regarding prognosis and likelihood of recovery.
   # UTI: Positive U/A on [**3-23**], culture growing yeast. Foley changed
   overnight [**Date range (1) 5037**].
   - Consider antifungal treatment if patient decompensates, though no
   positive blood cultures
   #  Thrombocytopenia. Improved. Likely secondary to liver failure and
   splenomegaly.  Evaluation for TTP and DIC difficult to interpret with
   liver failure.  Rare schistocytes on smear with elevated PTT, low
   fibrinogen, and direct hyperbilirubinemia.  However, LDH normal,
   arguing against TMA. E. coli O175:H7 neg argues against TTP/HUS.
   - Follow plt count and transfuse if plt < 10 or as needed to control
   bleeding
   # Hypernatremia after initial hyponatremia: Initial hypoNa likely
   secondary to ascites and LE edema. Suspect pt became hyperNa due to TF.
   - Mix meds in D5W
   - Cont free water flushes to 300cc Q4hrs
   - Continue D5W at 100cc/hr for now, recheck lytes in afternoon.
   #.  H/o alcohol abuse. Completed 5 days of high dose thiamine.
   - continue multivitamins, folate
   - SW consult when mental status improves
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2174-3-27**] 01:00 PM 50 mL/hour
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2174-3-25**] 10:39 AM
   PICC Line - (placed [**3-19**])
   Prophylaxis:
   DVT:  Pneumoboots (no HSQ given elevated INR and thrombocytopenia)
   Stress ulcer:  PPI
   Communication: Patient, Husband [**Name (NI) 117**] Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**]
   [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   Code status: FULL CODE - Ongoing discussion between liver team, MICU
   team and family given patient's declining status. Poor prognosis.
   Disposition: Ongoing ICU care this AM with possible call-out to floor
   this evening pending hepatology team eval.

2174-03-29 06:35:00 Physician Resident Progress Note
Chief Complaint: AMS, jaundice
   24 Hour Events:
   - Nutrition rec increasing rate of tube feeds with diluted ([**3-2**])
   strength tube feeds to assist in free water delivery.
   - Octreotide / midodrine continued
   - Added narcotics to allergy list due to respiratory depression
   Allergies:
   Narc.Analgesic
   Non-Salicyl.Analg. Barb.
   Severe resp dep
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-27**] 04:08 AM
   Vancomycin - [**2174-3-28**] 08:00 AM
   Piperacillin - [**2174-3-29**] 04:26 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Abdominal discomfort, slight respiratory difficulty
   Flowsheet Data as of  [**2174-3-29**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 89 (84 - 93) bpm
   BP: 113/64(76) {106/48(62) - 123/64(76)} mmHg
   RR: 13 (9 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
              Last bladder pressure
   Total In:
                                                                  5,699 mL
                                                                  1,701 mL
   PO:
                                   TF:
                                                                  1,201 mL
                                                                    328 mL
   IVF:
                                                                  3,838 mL
                                                                    593 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                    680 mL
   Urine:
                                                                  1,610 mL
                                                                    280 mL
   Stool:
                                                                  1,000 mL
   Balance:
                                                                  2,089 mL
                                                                  1,021 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 97%
   Physical Examination
   General: Resting comfortably in bed, verbally responsive, jaundiced
   HEENT: Sclera icteric, oral mucosa dry with thick oral secretions
   Neck: Supple, no LAD
   Lungs: Bilaterally clear anteriorly, no wheezes
   CV: RR, normal S1, S2, III/VI systolic murmur throughout precordium,
   loudest at LUSB
   Abdomen: distended, tender to palpation and percussion, no rebound or
   guarding, unable to assess hepatosplenomegaly
   Ext: Warm, well perfused, pneumoboots in place, bilat 3+ LE pitting
   edema, palmar erythema
   Neuro: Oriented to self,
hospital,
 and
[**Hospital3 **].
 Not oriented to
   date, is overall more directed in conversation this AM, asterixis
   present
   Labs / Radiology
   74 K/uL
   8.9 g/dL
   134 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.6 mEq/L
   101 mg/dL
   104 mEq/L
   143 mEq/L
   26.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2174-3-25**]  04:11 PM
                             [**2174-3-26**]  03:50 AM
                             [**2174-3-26**]  11:05 AM
                             [**2174-3-26**]  05:29 PM
                             [**2174-3-26**]  11:51 PM
                             [**2174-3-27**]  03:16 AM
                             [**2174-3-27**]  04:36 PM
                             [**2174-3-28**]  02:53 AM
                             [**2174-3-28**]  03:26 PM
                             [**2174-3-29**]  03:26 AM
   WBC
   10.1
   11.6
   10.9
   11.1
   12.9
   12.0
   13.4
   Hct
   26.0
   26.0
   26.5
   26.0
   26.0
   24.9
   26.0
   Plt
   50
   73
   70
   63
   68
   76
   74
   Cr
   1.2
   1.8
   1.9
   1.0
   1.0
   0.8
   0.6
   1.0
   TCO2
   33
   32
   Glucose
   112
   127
   114
   126
   173
   172
   168
   134
   Other labs: PT / PTT / INR:30.1/49.4/3.1, CK / CKMB / Troponin-T:20//,
   ALT / AST:59/98, Alk Phos / T Bili:61/48.0, Amylase / Lipase:31/33,
   Differential-Neuts:87.5 %, Band:0.0 %, Lymph:7.1 %, Mono:3.3 %, Eos:1.9
   %, Fibrinogen:228 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.6 g/dL,
   LDH:272 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   This is a 44 year old female with cirrhosis presumed secondary to
   alcohol abuse and tylenol overuse who is status post a 2 week stay in
   the MICU and is transferred back on [**3-25**] with worsening renal function,
   mental status, and respiratory distress.
   # Hypoxia:
   This AM in 96% on 4L NC.  CXR with question of multifocal PNA.
   Currently good coverage for HAP, although VRE, fungal or other ESBL
   organism is a possibility. Is now on new 8 day course of Vanc/Zosyn
   with initiation on [**2174-3-25**], will be stopped on [**2174-4-1**].  Very
   sensitive to narcotics and they should not be used due to extreme
   respiratory depression. Likely some component of impaired mechanics due
   to abdominal girth. Was being followed with bladder pressures; however,
   none performed in last 24 hours. No acute change in respiratory status
   yesterday, will conservatively consider need for repeat paracentesis if
   resp status worsens given recent severe hemorrhage with paracentesis.
   - Continue Vanc/Zosyn with final day being [**2174-4-1**].
   - Continue to liberate from supplemental oxygen as tolerated.
   - Pulmonary hygiene
   # Acute renal failure:
   Unknown true baseline Cr; however [**Last Name (un) 2406**] overall resolving with stable Cr
   of 1.0 this AM down from 1.9 on evening of [**2174-3-26**]. Has been managed
   with albumin infusion (5 of 75g thus far) as well as octreotide and
   midodrine. Despite stable Cr, BUN remains elevated to 101 this AM.
   - Continue octreotide, midodrine and defer to hepatology for further
   management
   - Renally dose meds
   - Avoid nephrotoxins
   # Altered mental status:
   Waxing and [**Doctor Last Name 282**], though overall more awake today than yesterday AM as
   she is answering questions well after delay in response. Likely
   multifactorial with hepatic encephalopathy, SBP, uremia, hypernatremia.
   Head CT on [**3-13**] neg for acute intracranial process.
   - Continue lactulose titrated to stool output and continue rifaxamin.
   - Treat hypernatremia as below
   # SBP:
   Has been exposed to many antibiotics at this point.
   - Continue Vanc/Zosyn for planned course ending [**2174-4-1**], but will
   switch to Cipro for suppression after that course is complete.
   # Hypernatremia:
   Patient with normal sodium at 143 this AM. Will monitor to assure no
   acute or too-rapid fall in sodium.
   - Cont free water flushes to 300cc Q4hrs
   - Continue diluted tube feeds to
 strength to increase free water
   delivery.
   - Can discontinue D5W infusion and continue to monitor sodium [**Hospital1 **]
   # Anemia:
   Stable at approx 26 in last 5 days s/p aggressive FFP transfusions s/p
   intra-abdominal bleeding. Cause likely multifactorial, biggest
   contributor being intrabdominal bleeding after paracentesis,
   superimposed on baseline anemia of chronic disease. Hemolysis unlikely
   to be contributing given past lab data. Also, has low grade GI bleed
   (guaiac pos, not grossly bloody).
   - Daily HCT check
   - Goal HCT is 21 if stable, will titrate transfusions if responding
   appropriately to blood.
   # Cirrhosis / hyperbilirubinemia / portal vein thrombosis:
   Liver enzymes stable elevation, Tbili with stable elevation. INR
   increasing daily and is 3.1 today.  This is likely secondary to
   cirrhosis from alcoholism with exacerbation from chronic acetaminophen
   use. Portal vein thrombosis seems acute due to no collateral flow in
   the portal circulation on CT.
   - Follow liver enzymes and bilirubin daily
   - Continue midodrine / octreotide for now
   - Minimize non-essential meds
   - Appreciate onoing hepatology input.
   - Transfer to hepatology team later today if they agree with eval that
   she is stable for floor care
   - Will need ongoing discussion about possibility of liver transplant
   pending ongoing improvement
   # UTI:
   Positive U/A on [**3-23**], culture growing yeast. Foley changed overnight
   [**Date range (1) 5037**].
   - Consider antifungal treatment if patient decompensates, though no
   positive blood cultures
   #  Thrombocytopenia.
   Improving from 30s at admission to 70s in last two mornings.
   Thrombocytopenia likely secondary to liver failure and splenomegaly.
   Evaluation for TTP and DIC difficult to interpret with liver failure.
   Rare schistocytes on smear with elevated PTT, low fibrinogen, and
   direct hyperbilirubinemia.  However, LDH normal, arguing against TMA.
   E. coli O175:H7 neg argues against TTP/HUS.
   - Follow plt count and transfuse if plt < 10 or as needed to control
   bleeding
   #.  H/O alcohol abuse:
   Completed 5 days of high dose thiamine.
   - Continue multivitamins, folate
   - SW consult when mental status improves to help with ongoing
   abstinence if discharged from hospital
   ICU Care
   Nutrition:
   Fibersource HN (3/4 strength)
 Increasing to goal of 75 mL/hour
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2174-3-25**] 10:39 AM
   PICC Line - (placed [**3-19**])
   Prophylaxis:
   DVT:  Pneumoboots (no HSQ given elevated INR and thrombocytopenia)
   Stress ulcer:  PPI
   Communication: Patient, Husband [**Name (NI) 117**] Health [**Name (NI) 232**] Proxy [**First Name4 (NamePattern1) **] [**Name (NI) 4794**]
   [**Telephone/Fax (1) 4795**] (h), [**Telephone/Fax (1) 4796**] (w)
   Code status: FULL CODE - Ongoing discussion between liver team, MICU
   team and family given patient's declining status. Poor prognosis.
   Disposition: Call-out to floor this pending hepatology team eval.